2151-10-31 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   Patient's vent settings were changed from the following:
   CMV/Assist; FiO2%:100; ; TV:450; PEEP:12; Temp:37.6 Lactate:2.3
   pH 7.23 pCO2 54 pO2  70 HCO3 24 BaseXS -5
   CMV/Assist; FiO2%:100; AADO2:607; Req:99; TV:400; PEEP:12;
    pH7.32 pCO2 49 pO2 60 HCO3 26
   to the ARDSnet protocol as below to prevent lung overexpansion.
   FiO2%:100; AADO2:592; Req:97; Rate:/22; TV:280; Temp:38.2
   pH 7.28 pCO2 54 pO2 70 HCO326 BaseXS -1
   She began to drop her O2 sats on the vent settings so multiple vent
   adjustments were made to bring up her O2 sats.  The following vent
   settings allowed her to stablilize at 85% and she was kept on these the
   remainder of the evening.
   CMV/Assist; FiO2%:100; AADO2:618; Req:98; TV:350; PEEP:12;
   pH 7.29 pCO2 52 pO2 65 HCO3 26 BaseXS -1
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-10-30**] 08:33 PM
   Ceftriaxone - [**2151-10-30**] 10:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Insulin - Regular - 6 units/hour
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.12 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-10-31**] 12:39 AM
   Other medications:
   Flowsheet Data as of  [**2151-10-31**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 87 (82 - 115) bpm
   BP: 120/68(83) {78/35(55) - 125/68(83)} mmHg
   RR: 17 (9 - 32) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  5,721 mL
                                                                    562 mL
   PO:
   TF:
   IVF:
                                                                  5,511 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                  1,170 mL
   Urine:
                                                                  1,225 mL
                                                                  1,170 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  4,096 mL
                                                                   -608 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 350 (280 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: Neuromusc Block
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 18.4 cmH2O/mL
   SpO2: 86%
   ABG: 7.29/52/65/24/-1
   Ve: 8.4 L/min
   PaO2 / FiO2: 65
   Physical Examination
   Intubated, paralyzed, and sedated
   Pupils are pinpoint, but sluggishly reactive to light
   Normal BS on L and some wheeze on R, moving air
   NRRR no murmurs
   Abdomen mildly distended with normal BS
   No edema in LE; pulses present
   Labs / Radiology
   Other Urine Chemistry:
   Creat:101
   Na:15
   Cl:19
   Osmolal:427                   FeNa: 0.2
   271 K/uL
   8.2 g/dL
   134 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   24.5 %
   11.1 K/uL
        [image002.jpg]
                            [**2151-10-30**]  10:16 AM
                            [**2151-10-30**]  11:27 AM
                            [**2151-10-30**]  03:28 PM
                            [**2151-10-30**]  03:34 PM
                            [**2151-10-30**]  09:09 PM
                            [**2151-10-30**]  10:37 PM
                            [**2151-10-30**]  11:34 PM
                            [**2151-10-31**]  02:36 AM
                            [**2151-10-31**]  04:18 AM
                            [**2151-10-31**]  04:39 AM
   WBC
   11.3
   11.1
   Hct
   25.6
   24.5
   Plt
   205
   271
   Cr
   1.6
   1.7
   TCO2
   24
   24
   26
   26
   26
   24
   26
   26
   Glucose
   157
   94
   146
   134
   Other labs: PT / PTT / INR:14.9/21.6/1.3, CK / CKMB /
   Troponin-T:146/2/<0.01, ALT / AST:73/112, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Imaging:
   CXR [**2151-10-30**]
   FINDINGS: Supine portable chest x-rays compared with [**2151-10-30**].
   The endotracheal tube terminates 4.4 cm above the carina. The
   orogastric tube is in satisfactory position. There are diffuse
   bilateral airspace opacifications, increased from previous study,
   consistent with pulmonary edema. Again seen is cardiomegaly. No
   pneumothorax is appreciated.
   ABDOMINAL U/S [**2151-10-30**]
   1. Mild gallbladder wall thickening with no intraluminal gallstones
   identified and trace free fluid in the right upper quadrant. These
   findings
   are nonspecific.
   2. Hepatic steatosis with sparing adjacent to the gallbladder fossa.
   3. Normal-appearing kidneys without evidence of hydronephrosis.
   Microbiology: DFA negative, but d/t amount of Poly's had to send to lab
   for definitive results
   [**2151-10-30**] Sputum culture
   GRAM POSITIVE COCCI.  IN PAIRS AND CLUSTERS
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS.
   .
   # Respiratory failure/ARDS.  Patient presented with evidence of R sided
   pneumonia with rapid progression to severe ARDS requiring maximal
   ventilatory support.  Likely d/t bacterial pneumonia because gm (+)
   cocci found in sputum.   Does have evidence of bronchospasm/asthma
   flare.  No evidence of volume overload.   Esophageal balloon in now.
   - proning was discussed and felt would be a fatal intervention in her
   - Continue to vent while paralyzed on cisatracurarium
   - Attempt following vent inrterventions to improve oxygenation:
   increase PEEP despite esophageal balloon settings, pressure control,
   APRV.  If those fail may consider NO or ECMO
   - Antibacterial coverage with levoflox, ceftriaxone for CAP plus vanco
   to cover staph.
   - Antiviral coverage with oseltamavir; start peramivir.
   - Sputum culture f/u final results- gram + cocci right now
   - Nasal swab for flu was neg here and sent to state lab for final
   results b/c of poly
   - Unable to bronch for r/o AEP or [**Last Name (un) 10044**], consider in future.
   - Asthma management with IV solumedrol and albuterol MDIs; consider
   repeat Mag.
   - Check TTE with bubble.
   - Blood transfusion to help oxygenation.  Fluids as needed
   .
   # ARF.  Looks dry on initial exam.  s/p 2 liters in ED.  Likely
   prerenal/hypovolemic and FeNa of 0.2 suggests prerenal.  Abdominal u/s
   showed no hydronephrosis
   - Continue to trend.
   - Stop Lasix and give fluids (1 u PRBC as needed)
   .
   # Abdominal pain.  Presenting to ED with abdominal pain - may be truly
   reflection of RLL pneumonia.  LFTs normal.  KUB nonspecific.  Portable
   u/s showed non-specific gallbladder wall thickening and some free fluid
   - Possible CT abdomen if stabilizes.
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   # Leukocytosis.  Rising again since ED.  Likely infectious related as
   above.
   - f/u cultures.
   - continue to trend.
   .
   # Hyponatremia.  Likely hypovolemic based on initial assessment of
   volume status.  Improving after getting saline in ED.
   - Continue to trend.
   .
   # DM type II. On high doses of insulin at home.
   - Insulin gtt.
   - Hold metformin.
   .
   # Hypertension.
   - Holding all meds in setting of acute infection.
   .
   FEN: bolus IVFs prn, replete electrolytes, Start feeds per nutrition
   with Vivinex
   Prophylaxis: Subutaneous heparin
   Access: femoral line needs to be changed to IJ and ART needs to be
   re-wired.
   Code:  Presumed full
   Communication: Husband (have been unable to get in touch with).
   Disposition: pending clinical improvement
   ------ Protected Section ------
   A/P
   Tylenol challenge to test patient
s ability to absorb medicine.
   - Give 1 g of Tylenol and check level an hour later.  If <10 interpret
   as not able to absorb.  Greater than 25 is good absorption and [**10-3**] in
   not interpretable.
   ------ Protected Section Addendum Entered By:[**Name (NI) 635**] [**Last Name (NamePattern1) 9933**],
   Resident  on:[**2151-10-31**] 09:59 ------

2151-10-31 09:24:00 Physician Attending Progress Note
Chief Complaint: resp failure, ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2151-10-30**] 08:45 AM
   abd
   Changed to ARDSnet with Vt 280 f22 PEEP unchanged at 12, FiO2 1.0.
   7.28/54/70
   Dropped sats to mid80s. Increased Vt to 350, increased I:E.
   AC 1.0/350/25/12
   Remains on levophed, insulin drip.
   Lasix at 10cc/h.
   Abx ctx, vanco, levofloxacin
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-10-30**] 08:33 PM
   Ceftriaxone - [**2151-10-30**] 10:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.12 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-10-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-31**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 85 (82 - 115) bpm
   BP: 89/45(59) {78/35(55) - 130/68(83)} mmHg
   RR: 25 (9 - 32) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   Bladder pressure: 9 (9 - 12) mmHg
   Total In:
                                                                  5,721 mL
                                                                    774 mL
   PO:
   TF:
   IVF:
                                                                  5,511 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                  1,470 mL
   Urine:
                                                                  1,225 mL
                                                                  1,470 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  4,096 mL
                                                                   -696 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 350 (280 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: Neuromusc Block
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 18.4 cmH2O/mL
   SpO2: 85%
   ABG: 7.31/46/57/24/-3
   Ve: 8.4 L/min
   PaO2 / FiO2: 57
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: pinpoint pupils
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : ), moderate
   air movement. no secretions.
   Abdomen: Distended but soft, less distended than yesterday. BM
   overnight.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   271 K/uL
   134 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   38 mg/dL
   107 mEq/L
   142 mEq/L
   24.5 %
   11.1 K/uL
        [image002.jpg]
                            [**2151-10-30**]  11:27 AM
                            [**2151-10-30**]  03:28 PM
                            [**2151-10-30**]  03:34 PM
                            [**2151-10-30**]  09:09 PM
                            [**2151-10-30**]  10:37 PM
                            [**2151-10-30**]  11:34 PM
                            [**2151-10-31**]  02:36 AM
                            [**2151-10-31**]  04:18 AM
                            [**2151-10-31**]  04:39 AM
                            [**2151-10-31**]  08:09 AM
   WBC
   11.3
   11.1
   Hct
   25.6
   24.5
   Plt
   205
   271
   Cr
   1.6
   1.7
   TCO2
   24
   26
   26
   26
   24
   26
   26
   24
   Glucose
   157
   94
   146
   134
   Other labs: PT / PTT / INR:14.9/21.6/1.3, CK / CKMB /
   Troponin-T:146/2/<0.01, ALT / AST:73/112, Alk Phos / T Bili:70/0.4,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.8 mg/dL
   Imaging: Unchanged bilateral patchy opacities. ETT in good position.
   Microbiology: sputum cx GPC pairs, clusters
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, h/o asthma; presenting to ED with RUQ pain with rapid
   development of hypoxemic respiratory failure and ARDS.
   DIFFICULT INTUBATION (5 failed attempts with glidescope before
   fiberoptic).
   Radiographic rapid progression to multifocal dense opacification, ARDS.
   Possibly aspiration, particularly given 5 failed intubation attempts,
   though no witnessed aspiration.
   Suctioned plugs post-intubation, no significant secretions suctioned
   since.
   ARDS, initially presented with right pneumonia, h/o asthma with unclear
   severity/control.
   Esophageal balloon.
   Empirical tx for severe CAP, influenza.
   Paralyzed and esophageal balloon.
   Early this AM, started dropping BP, started levophed, lactate rising.
   Etiology unclear
 getting ruled out for flu, broad spectrum
   antibiotics, echo.
   1.       Respiratory failure with refractory hypoxemia. PRVC vent.
   Maintain paralysis, deep sedation. Will attempt PC and APRV to attempt
   to improve oxygenation. If vent changes fail to improve sat will
   consider NO and ECMO.
   2.       PNA. Sputum GPC. Extremely rapid progression, unidentified
   pathogen. Continue current antibiotics. Concerned she may not be
   absorbing [**Last Name (LF) **], [**First Name3 (LF) 124**] assess absorption with PO acetaminophen and
   order Peramivir.
   3.       ARF, prerenal. Will hold Lasix drip while we attempt increase
   PEEP, PC which will likely worsen preload and more hypotension.
   4.       Start elemental feeding at 10cc Vivinex/h.
   Na 130
   Cr 1.8
   LFTs nl
   WBC 12.1--> 19.9K
   ABG PCO2 47
   post-intubation 7.09/92/55 on FiO2 1.0, PEEP 10.
   Initial settings AC with PIPs 40s.
   Solumedrol, nebs
   Became progressively hypotensive at 1am, persistent hypoxemia.
   Reparalyzed.
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS.
   .
   # Respiratory failure/ARDS.
   H1N1/viral pneumonia, bacterial pneumonia (post-flu staph or other),
   extrapulmonary infection/sepsis, alveolar hemorrhage, AEP or
   noninfectious pneumonitis. No apparent risk factors for PCP or fungal
   pneumonias.
   Now requiring FiO2 1 with high PEEPs, sedation/paralysis.
          PTranspulm insp hold ~19, exp 1. [**Month (only) 8**] increase PEEP to 14 but
   for now will lower Vt, increase f.
          Continue to vent while paralyzed on cisatra.
          ARDSnet volumes; titrate allowable pressures pending
   esophageal balloon results.
          Antibacterial coverage with levoflox, ceftriaxone for CAP
   plus vanco to cover staph.  Should not be at increased risk for
   resistent GNRs.
          Antiviral coverage with oseltamavir; consider peramivir if
   flu positive given severity of illness.
          Asthma management with IV solumedrol and albuterol MDIs;
   consider repeat Mag.
          TTE with bubble.
   ARF: likely hypovolemic-- only  s/p 3 liters. Likely
   prerenal/hypovolemic (vs. sepsis or ATN).
   .
   Abdominal pain.  Presenting to ED with abdominal pain - may be truly
   reflection of RLL pneumonia.  LFTs normal.  KUB nonspecific.
   - Check portable abdominal US - eval biliary system, kidneys.
   - Possible CT abdomen if stabilizes.
   .
   History of difficult intubation.  s required bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   Leukocytosis.  Rising again since ED.  Likely infectious related as
   above.
   - f/u cultures.
   - continue to trend.
   .
   Hyponatremia.  Likely hypovolemic based on initial assessment of volume
   status.  Improving after getting saline in ED.
   -          Continue to trend.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2151-10-29**] 08:25 PM
   18 Gauge - [**2151-10-29**] 08:26 PM
   20 Gauge - [**2151-10-29**] 08:28 PM
   Multi Lumen - [**2151-10-30**] 12:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2151-11-01 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-10-31**] 10:00 AM
 MULTI LUMEN - START [**2151-10-31**] 04:30 PM
 MULTI LUMEN - STOP [**2151-10-31**] 06:30 PM
 BLOOD CULTURED - At [**2151-11-1**] 12:00 AM
   x 2 from new lines central and art
 EKG - At [**2151-11-1**] 12:38 AM
 URINE CULTURE - At [**2151-11-1**] 12:40 AM
 STOOL CULTURE - At [**2151-11-1**] 12:40 AM
 EKG - At [**2151-11-1**] 01:38 AM
 ARTERIAL LINE - STOP [**2151-11-1**] 02:43 AM
   started in ER
 ARTERIAL LINE - START [**2151-11-1**] 04:07 AM
   - Tried NO and had some improved sats temporarily from high 80's -->
   mid 90's.
   - Tried PRVC and APRV today
   - Around 2200: unstable, hypoTN and started on Levophed, evolving
   lactic acidosis
   - Got 3L D5W with 3 amps HCO3
   - New Aline placed on L, got triple lumen CVL on R, and fem line was
   pulled
   - started on flagyl for empiric c. diff coverage
   - CXR without free air, pneumothorax
   - KUB pending
   - Ordered Peramivir
   - Tylenol absorption test
   - ID recs: Reasonable to get IV Peramivir. Change Ceftriaxone to
   Cefepime for better Staph coverage (done). Send urine Legionella
   (ordered).
   - Goal is fluid even for the day --> stopping Lasix though
   - Flu sample sent to state lab for PCR
   - 1U PRBC's today for some volume   Hct 24.5  --> 27.8
   - Start TF's
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-30**] 10:00 PM
   Cefipime - [**2151-10-31**] 05:00 PM
   Vancomycin - [**2151-10-31**] 08:15 PM
   Metronidazole - [**2151-11-1**] 12:43 AM
   Levofloxacin - [**2151-11-1**] 01:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.12 mg/Kg/hour
   Insulin - Regular - 40 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-1**] 12:45 AM
   Fentanyl - [**2151-11-1**] 02:40 AM
   Insulin - Regular - [**2151-11-1**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-1**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 123 (69 - 131) bpm
   BP: 158/49(73) {64/34(42) - 199/114(129)} mmHg
   RR: 29 (17 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 23 (14 - 23)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  4,616 mL
                                                                  4,380 mL
   PO:
   TF:
                                                                     34 mL
   IVF:
                                                                  3,957 mL
                                                                  4,380 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,910 mL
                                                                    420 mL
   Urine:
                                                                  2,910 mL
                                                                    270 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                            1,706  --> 12L positive LOS mL
                                                                  3,960 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 278) mL
   PS : 0 cmH2O
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 92%
   ABG: 7.16/49/68/16/-11
   Ve: 11.5 L/min
   PaO2 / FiO2: 85
   Physical Examination
   General Appearance: Intubated sedated and paralyzed.
   Cardiovascular: Tachycardic, S1 S2 clear no murmurs heard. PMI easily
   felt at midclav line
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: Light expiratory rhonchi in all lung fields and
   distinct inspiratory wheeze in R apex
   Abdominal: Non-tender, Distended, BS absent
   Extremities: No BLE edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   9.2 g/dL
   625 mg/dL   DOWN FROM 699
   2.0 mg/dL  TRENDING UP
   16 mEq/L   GOING DOWN. AG IS 25. DELTA DELTA 1.6 = PURE AG ACIDOSIS
   2.8 mEq/L   SLIDING SCALE, BEING REPLETED
   45 mg/dL
   101 mEq/L
   142 mEq/L
   28.8 %
   20.7 K/uL
        [image002.jpg]
                            [**2151-10-31**]  06:46 PM
                            [**2151-10-31**]  08:23 PM
                            [**2151-10-31**]  10:04 PM
                            [**2151-10-31**]  10:31 PM
                            [**2151-10-31**]  11:27 PM
                            [**2151-11-1**]  12:20 AM
                            [**2151-11-1**]  12:21 AM
                            [**2151-11-1**]  01:09 AM
                            [**2151-11-1**]  02:18 AM
                            [**2151-11-1**]  02:28 AM
   WBC
   12.3
   20.7
   RISING
   Hct
   27.8
   28.8
   S/P 1U YESTERDAY
   Plt
   254
   311
   STABLE
   Cr
   1.9
   2.0
   GOING UP
   TropT
   0.04
   0.18
   TCO2
   28
   29
   20
   22
   24
   18
   18
   Glucose
   100
   308
   669
   625
   Other labs: PT / PTT / INR:15.0/23.3/1.3   THIS AM , CK / CKMB /
   Troponin-T:101/4/0.18  ACUTELY ELEVATED THIS AM , ALT / AST:176/305
   ACUTELY ELEVATED THIS AM , Alk Phos / T Bili:111/1.1  ACUTELY ELEVATED
   THIS AM , Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %
   ON ADMISSION , Lymph:5.5 %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:10.6
   mmol/L, Albumin:2.9 g/dL, LDH:250 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.0 mg/dL   ELEVATED
   Fluid analysis / Other labs: Tylenol absorption test 10.3 -->
   indeterminate
   - [**10-31**] at 1030pm ABG 7.11/58/73/20 (Bicarb down from 29), Lactate 7.3
   up from 1.1
   - [**10-31**] at 1130pm 7.22/50/78/22 Lactate 7.3 --> 8.9
   - [**11-1**] at 0020am 7.18/62/128/24 Lactate 8.9
   - [**11-1**] at 0109am 7.15/50/75/18 Lactate 11.4
   - [**11-1**] at 230am 7.16/49/68/18 Lactate 10.6
   free Ca 0.95, 0.97, 0.94 (1.12-1.32)
   UA with mod blood, WBC [**5-19**], many bacteria, neg nitrite, neg LE,
   negative glucose/ketones
   Imaging: [**11-1**] KUB this am
   [**10-31**] 1030pm CXR
   [**10-30**] u/s abdomen
   1. Nonspecific gallbladder wall thickening with no intraluminal
   gallstones or
   gallbladder distension. No definite evidence of acute cholecystitis.
   Trace
   free fluid in the right upper quadrant.
   2. Periportal edema, likely secondary to volume overload.
   3. Hepatic steatosis with sparing adjacent to the gallbladder fossa.
   4. Normal-appearing kidneys without evidence of hydronephrosis.
   [**10-29**] abdomen XRay
   IMPRESSION:
   1. Findings may represent mild ileus versus early obstruction. Clinical
   correlation advised and follow-up/further evaluation as indicated.
   2. Right lower lobe pneumonia - pleural effusion again noted.
   Microbiology: [**11-1**] UCx, BCx x2
   [**10-31**] resp viral Cx pending, screen rejected due to PMN's
   [**10-30**] DFA influenza sent to state lab
   [**10-30**] BCx x2 negative to date
   [**10-30**] sputum with 1+ GPC's pairs/clusters, Cx with oral flora
   [**10-29**] GNR's in urine
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, now with increasing vent requirements, and evolving
   metabolic lactic and respiratory acidosis and shock picture, with
   evidence of liver and renal organ damage.
   # Respiratory failure/ARDS.  Patient presented with evidence of R sided
   pneumonia with rapid progression to severe ARDS requiring maximal
   ventilatory support.  Likely d/t bacterial pneumonia because gm (+)
   cocci found in sputum. Yesterday was tried on NO, APRV, and then PRVC.
   - Proning was discussed and felt would be a fatal intervention in her,
   so this was not done yesterday
   - Continue to vent while paralyzed on cisatracurarium
   - [**Month (only) 8**] need to consider ECMO
   - Tomorrow we will start to wean the NO
   - ABx coverage with Levaquin (started [**10-29**]), Vanc (started [**10-30**]),
   Cefepime (started [**10-31**]), and Flagyl (started [**10-31**])
   - Have ordered IV Peramivir from CDC, will f/u.
   - F/u flu results sent to state lab
   - F/u sputum Cx's and sensitivities
   - Asthma management with IV solumedrol and albuterol MDIs
 today we
   will start to wean the IV Solumedrol
   - Blood transfusion to help oxygenation.  Fluids as needed
   # Shock. Very concerning for septic shock with GNR's in urine and GPC's
   in sputum on admission. Less likely cardiogenic shock given warm
   extremities. On broad spectrum ABx as above. CVP 23. She also has
   evidence of end organ ischemia with rising LFT's, rising Cr, elevated
   Trops
   - Continues on pressors to keep MAP >60 --> at present, Neo and Levo
   have been weaned overnight and pt is only on Vasopressin
   - Need to get echo with bubble study today to assess for cardiogenic
   shock
   - Need CvO2 today
 DONE 77%
   - Continue ABx as above, f/u Cx's
   - IVF's as needed, would use IVF with bicarb to help with metabolic
   acidosis, or could also use blood products.
   # Metabolic acidosis with elevated lactate. Unsure where the etiology
   of her acute decompensation and subsequent acidosis with elevated
   lactate came from. Had abd XR [**10-29**] showing possible evolving
   obstruction picture, but repeat abd xray last night did not show
   dilated loops of bowel. Also concerning would be bowel perforation but
   no free air is seen on most recent abd ray or CXR
   - F/u final Xray read
   - If stable from hemodynamics perspective and possibly able to go,
   could consider CT torso, but unsure if this will change management, as
   she is not an operative candidate now if she had a perforation or an
   abscess
   - IVF's with bicarb
   - ABx as above
   # Respiratory acidosis. Currently being mechanically ventilated. Will
   adjust settings to keep CO2 40-50.
   # Elevated Troponins - More likely is due to global ischemia than ACS,
   as there is widespread evidence of hypoperfusion of multiple organs.
   - Trend Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   - Needs echo today to assess for wall motion abnmls
   - Daily EKGs
   # Hyperglycemia. Blood sugars running in the 600-700's despite 40U/hr
   insulin gtt and several 10-20U boluses. Most likely due to the 3L D5W
   with bicarb to address acidosis, but could be stress response to shock.
   - Will check for ketone bodies which could be contributing to metabolic
   acidosis although they were note seen on most recent UA
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars
   - If fluids needed consider blood products as opposed to further
   dextrose with bicarb
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   # Leukocytosis.  Rising again since ED.  Likely infectious related as
   above.
   - f/u cultures.
   - continue to trend.
   - ABx as above
   FEN: bolus IVFs prn, **** replete electrolytes ****, was started on
   TF
s with Vivinex but we have d/c
d them for now and will keep NPO for
   now
   Prophylaxis: Subutaneous heparin and IV PPI
   Access: has new L art line, R IJ and 2 peripherals
   Code:  Presumed full
   Communication: daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: pending clinical improvement

2151-11-01 09:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure/shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women presented originally RUQ pain in ED.  Developed respiratory
   failure, lactic acidosis, shock.  Required inhaled NO yesterday due to
   hypoxemia.  Yesterday with increased levophed requirement and worsening
   lactic acidosis.  Had new arterial line and central line placed.
   Started on empiric flagyl.  Groin line was removed.  Had a transfusion.
   24 Hour Events:
 EKG - At [**2151-10-31**] 10:00 AM
 MULTI LUMEN - START [**2151-10-31**] 04:30 PM
 MULTI LUMEN - STOP [**2151-10-31**] 06:30 PM
 BLOOD CULTURED - At [**2151-11-1**] 12:00 AM
   x 2 from new lines central and art
 EKG - At [**2151-11-1**] 12:38 AM
 URINE CULTURE - At [**2151-11-1**] 12:40 AM
 STOOL CULTURE - At [**2151-11-1**] 12:40 AM
 EKG - At [**2151-11-1**] 01:38 AM
 ARTERIAL LINE - STOP [**2151-11-1**] 02:43 AM
   started in ER
 ARTERIAL LINE - START [**2151-11-1**] 04:07 AM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-30**] 10:00 PM
   Cefipime - [**2151-10-31**] 05:00 PM
   Vancomycin - [**2151-10-31**] 08:15 PM
   Levofloxacin - [**2151-11-1**] 01:30 AM
   Metronidazole - [**2151-11-1**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Vasopressin - 1.2 units/hour
   Cisatracurium - 0.12 mg/Kg/hour
   Other ICU medications:
   Insulin - Regular - [**2151-11-1**] 06:31 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-1**] 08:00 AM
   Midazolam (Versed) - [**2151-11-1**] 08:20 AM
   Fentanyl - [**2151-11-1**] 08:20 AM
   Other medications:
   solumedrol 125mg q8h
   colace
   simvastatin
   paroxetin
   albuterol
   mg, k
   Na
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-1**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 123 (69 - 131) bpm
   BP: 154/66(86) {64/34(42) - 199/114(129)} mmHg
   RR: 35 (17 - 35) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 13 (13 - 23)mmHg
   Total In:
                                                                  4,616 mL
                                                                  5,513 mL
   PO:
   TF:
                                                                     34 mL
   IVF:
                                                                  3,957 mL
                                                                  5,513 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,910 mL
                                                                  1,000 mL
   Urine:
                                                                  2,910 mL
                                                                    850 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,706 mL
                                                                  4,513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 278) mL
   PS : 0 cmH2O
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 17.5 cmH2O/mL
   SpO2: 91%
   ABG: 7.31/49/77/16/-2
   Ve: 11.5 L/min
   PaO2 / FiO2: 96
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, conjunctival edema
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Tone: Not
   assessed, paralyzed
   Labs / Radiology
   9.2 g/dL
   311 K/uL
   735 mg/dL
   2.0 mg/dL
   16 mEq/L
   2.6 mEq/L
   45 mg/dL
   97 mEq/L
   139 mEq/L
   28.8 %
   20.7 K/uL
        [image002.jpg]
                            [**2151-10-31**]  10:04 PM
                            [**2151-10-31**]  10:31 PM
                            [**2151-10-31**]  11:27 PM
                            [**2151-11-1**]  12:20 AM
                            [**2151-11-1**]  12:21 AM
                            [**2151-11-1**]  01:09 AM
                            [**2151-11-1**]  02:18 AM
                            [**2151-11-1**]  02:28 AM
                            [**2151-11-1**]  05:25 AM
                            [**2151-11-1**]  05:35 AM
   WBC
   12.3
   20.7
   Hct
   27.8
   28.8
   Plt
   254
   311
   Cr
   1.9
   2.0
   TropT
   0.04
   0.18
   TCO2
   20
   22
   24
   18
   18
   26
   Glucose
   [**Telephone/Fax (3) 10091**]35
   Other labs: PT / PTT / INR:15.0/23.3/1.3, CK / CKMB /
   Troponin-T:101/4/0.18, ALT / AST:176/305, Alk Phos / T Bili:111/1.1,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:9.0 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Imaging: RUQ U/S:  GB wall thickening, no acute cholecystitis
   Microbiology: sputum: rare respiratory flora
   urine: GNRs
   Assessment and Plan
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  bacterial PNA versus H1N1 influenza.
    - On NO, has not had a good response to PEEP, but NO improved her
   oxygenation.  Will continue for today since she has been on for 12
   hours and then consider wean tomorrow.
    - Currently and vanco/cefepime/levoquin/flagyl
   - Will wean back on medrol - cut dose in half.
   Septic Shock:  Has improved hemodynamically today and weaning off
   pressors with IVF repletion.  Can cut back on fluids with CVP about 13
   currently.
   Acidosis:  Lactic acidosis and respiratory acidosis.  Can stop HCO3,
   given hyperglycemia and improved pH this morning.
   HOTN:  Worthwhile getting an echo with a bubble study to assess for
   cardiac function, pulm HTN, and also shunts given response to NO, and
   lack of response to PEEP.
   Acute renal failure:  Creatinine rising, but urine output has
   significanly improved today.
   hyperglycemia:  on insulin drip.  Stopping D5, and reducing steroids.
   Shock liver:  Stop simvastatin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-29**] 08:26 PM
   20 Gauge - [**2151-10-29**] 08:28 PM
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2151-11-02 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxic arrest
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-1**] 08:00 AM another set from the arterial
   line (peripheral stick x2 was unsuccessful)
 BLOOD CULTURED - At [**2151-11-1**] 10:00 AM another set from the central
   line
 EKG - At [**2151-11-1**] 03:25 PM
 SPUTUM CULTURE - At [**2151-11-1**] 06:19 PM
 CARDIAC ARREST - At [**2151-11-1**] 06:45 PM
   PEA arrest in the setting of hypoxia. pt was pulseless and cpr was
   initated briefly. she received 1mg ivp epinephrine and rapidly became
   hyptensive (sbp ~295) and more tachycardic (hr 130's). a ntg drip was
   then initiated to reduce hypertension and was eventually weaned off.
 CARDIAC ARREST - At [**2151-11-1**] 07:05 PM
   PEA ? due to hypoxia. 0.5 mg of epi given and pulse returned along with
   severe hypertension.
   - echo: mild LVH w/ EF>75$, mildly dilated/hypokinetic RV, moderate
   pulmonary HTN.
   - PM trop continues to rise. ECG reassuring as ST changes from night
   before corrected.
   - KUB: no obstruction
   - respiratory viral culture negative - ? stop flu precautions.
   - solumedrol dose cut in half
   - stopped bicarb drip
   - vanco changed to Q48hr
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-30**] 10:00 PM
   Levofloxacin - [**2151-11-1**] 01:30 AM
   Cefipime - [**2151-11-1**] 03:13 PM
   Vancomycin - [**2151-11-1**] 08:42 PM
   Metronidazole - [**2151-11-2**] 12:16 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-1**] 11:30 AM
   Midazolam (Versed) - [**2151-11-1**] 06:30 PM
   Fentanyl - [**2151-11-1**] 06:30 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-2**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-2**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 118 (117 - 231) bpm
   BP: 139/66(80) {80/37(52) - 187/126(141)} mmHg
   RR: 31 (13 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 14 (13 - 328)mmHg
   Total In:
                                                                  7,735 mL
                                                                    697 mL
   PO:
   TF:
   IVF:
                                                                  7,635 mL
                                                                    697 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    480 mL
   Urine:
                                                                  2,470 mL
                                                                    480 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,115 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   Compliance: 15.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.46/46/67/30/7
   Ve: 11.3 L/min
   PaO2 / FiO2: 74
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.3 g/dL
   106 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.4 mEq/L
   46 mg/dL
   108 mEq/L
   147 mEq/L
   25.1 %
   15.4 K/uL
        [image002.jpg]
                            [**2151-11-1**]  02:15 PM
                            [**2151-11-1**]  02:21 PM
                            [**2151-11-1**]  05:20 PM
                            [**2151-11-1**]  05:26 PM
                            [**2151-11-1**]  07:49 PM
                            [**2151-11-1**]  08:00 PM
                            [**2151-11-1**]  10:35 PM
                            [**2151-11-2**]  01:21 AM
                            [**2151-11-2**]  04:06 AM
                            [**2151-11-2**]  04:33 AM
   WBC
   19.3
   15.4
   Hct
   28.9
   25.1
   Plt
   291
   230
   Cr
   2.0
   2.2
   2.3
   TropT
   0.52
   0.61
   TCO2
   32
   36
   32
   32
   34
   34
   Glucose
   285
   109
   184
   106
   Other labs: PT / PTT / INR:18.0/25.4/1.6, CK / CKMB /
   Troponin-T:115/5/0.61, ALT / AST:165/154, Alk Phos / T Bili:90/0.6,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: [**11-1**] CXR: Increasingly confluent right-sided opacity.
   Microbiology: [**11-1**] blood cx x4 pending
   [**11-1**] c diff negative
   [**11-1**] sputum w/ PMNs, culture pending
   [**11-1**] urine cx pending
   Assessment and Plan
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, now with increasing vent requirements, and evolving
   metabolic lactic and respiratory acidosis and shock picture, with
   evidence of liver and renal organ damage.
   # Respiratory failure/ARDS.  Patient presented with evidence of R sided
   pneumonia with rapid progression to severe ARDS requiring maximal
   ventilatory support.  Likely d/t bacterial pneumonia because gm (+)
   cocci found in sputum. Yesterday was tried on NO, APRV, and then PRVC.
   - Proning was discussed and felt would be a fatal intervention in her,
   so this was not done yesterday
   - Continue to vent while paralyzed on cisatracurarium
   - [**Month (only) 8**] need to consider ECMO
   - Tomorrow we will start to wean the NO
   - ABx coverage with Levaquin (started [**10-29**]), Vanc (started [**10-30**]),
   Cefepime (started [**10-31**]), and Flagyl (started [**10-31**])
   - Have ordered IV Peramivir from CDC, will f/u.
   - F/u flu results sent to state lab
   - F/u sputum Cx's and sensitivities
   - Asthma management with IV solumedrol and albuterol MDIs
 today we
   will start to wean the IV Solumedrol
   - Blood transfusion to help oxygenation.  Fluids as needed
   # Shock. Very concerning for septic shock with GNR's in urine and GPC's
   in sputum on admission. Less likely cardiogenic shock given warm
   extremities. On broad spectrum ABx as above. CVP 23. She also has
   evidence of end organ ischemia with rising LFT's, rising Cr, elevated
   Trops
   - Continues on pressors to keep MAP >60 --> at present, Neo and Levo
   have been weaned overnight and pt is only on Vasopressin
   - Need to get echo with bubble study today to assess for cardiogenic
   shock
   - Need CvO2 today
 DONE 77%
   - Continue ABx as above, f/u Cx's
   - IVF's as needed, would use IVF with bicarb to help with metabolic
   acidosis, or could also use blood products.
   # Metabolic acidosis with elevated lactate. Unsure where the etiology
   of her acute decompensation and subsequent acidosis with elevated
   lactate came from. Had abd XR [**10-29**] showing possible evolving
   obstruction picture, but repeat abd xray last night did not show
   dilated loops of bowel. Also concerning would be bowel perforation but
   no free air is seen on most recent abd ray or CXR
   - F/u final Xray read
   - If stable from hemodynamics perspective and possibly able to go,
   could consider CT torso, but unsure if this will change management, as
   she is not an operative candidate now if she had a perforation or an
   abscess
   - IVF's with bicarb
   - ABx as above
   # Respiratory acidosis. Currently being mechanically ventilated. Will
   adjust settings to keep CO2 40-50.
   # Elevated Troponins - More likely is due to global ischemia than ACS,
   as there is widespread evidence of hypoperfusion of multiple organs.
   - Trend Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   - Needs echo today to assess for wall motion abnmls
   - Daily EKGs
   # Hyperglycemia. Blood sugars running in the 600-700's despite 40U/hr
   insulin gtt and several 10-20U boluses. Most likely due to the 3L D5W
   with bicarb to address acidosis, but could be stress response to shock.
   - Will check for ketone bodies which could be contributing to metabolic
   acidosis although they were note seen on most recent UA
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars
   - If fluids needed consider blood products as opposed to further
   dextrose with bicarb
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   # Leukocytosis.  Rising again since ED.  Likely infectious related as
   above.
   - f/u cultures.
   - continue to trend.
   - ABx as above
   FEN: bolus IVFs prn, **** replete electrolytes ****, was started on
   TF
s with Vivinex but we have d/c
d them for now and will keep NPO for
   now
   Prophylaxis: Subutaneous heparin and IV PPI
   Access: has new L art line, R IJ and 2 peripherals
   Code:  Presumed full
   Communication: daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: pending clinical improvement

2151-11-02 10:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with DM, HTN, with h/o asthma, admitted with respiratory
   failure due to pneumonia
   or unclear etiology.    Arrested - PEA twice overnight due to
   respiratory events.  Then stabilzed
   overnight.  Off pressors now.
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-1**] 08:00 AM
   another set from the arterial line (peripheral stick x2 was
   unsuccessful)
 BLOOD CULTURED - At [**2151-11-1**] 10:00 AM
   another set from the central line
 EKG - At [**2151-11-1**] 03:25 PM
 SPUTUM CULTURE - At [**2151-11-1**] 06:19 PM
 CARDIAC ARREST - At [**2151-11-1**] 06:45 PM
   PEA arrest in the setting of hypoxia. pt was pulseless and cpr was
   initated briefly. she received 1mg ivp epinephrine and rapidly became
   hyptensive (sbp ~295) and more tachycardic (hr 130's). a ntg drip was
   then initiated to reduce hypertension and was eventually weaned off.
 CARDIAC ARREST - At [**2151-11-1**] 07:05 PM
   PEA ? due to hypoxia. 0.5 mg of epi given and pulse returned along with
   severe hypertension.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Ceftriaxone - [**2151-10-30**] 10:00 PM
   Levofloxacin - [**2151-11-1**] 01:30 AM
   Cefipime - [**2151-11-1**] 03:13 PM
   Vancomycin - [**2151-11-1**] 08:42 PM
   Metronidazole - [**2151-11-2**] 08:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Insulin - Regular - 4 units/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-11-1**] 06:30 PM
   Fentanyl - [**2151-11-1**] 06:30 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-2**] 08:11 AM
   Famotidine (Pepcid) - [**2151-11-2**] 08:16 AM
   Other medications:
   Paramavir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-2**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 115 (115 - 231) bpm
   BP: 139/66(80) {80/37(52) - 187/126(141)} mmHg
   RR: 28 (13 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 15 (13 - 328)mmHg
   Total In:
                                                                  7,735 mL
                                                                  1,083 mL
   PO:
   TF:
   IVF:
                                                                  7,635 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    640 mL
   Urine:
                                                                  2,470 mL
                                                                    640 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,115 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 37 cmH2O
   Plateau: 33 cmH2O
   Compliance: 16 cmH2O/mL
   SpO2: 93%
   ABG: 7.46/46/67/30/7
   Ve: 10.2 L/min
   PaO2 / FiO2: 74
   Physical Examination:
   Pupil reactive:
   Lungs:  diminished BS on Right side
   CV: RRR, S1, S2
   Abd: no BS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Unresponssive
   Labs / Radiology
   8.3 g/dL
   230 K/uL
   106 mg/dL
   2.3 mg/dL
   30 mEq/L
   4.4 mEq/L
   46 mg/dL
   108 mEq/L
   147 mEq/L
   25.1 %
   15.4 K/uL
        [image002.jpg]
                            [**2151-11-1**]  02:15 PM
                            [**2151-11-1**]  02:21 PM
                            [**2151-11-1**]  05:20 PM
                            [**2151-11-1**]  05:26 PM
                            [**2151-11-1**]  07:49 PM
                            [**2151-11-1**]  08:00 PM
                            [**2151-11-1**]  10:35 PM
                            [**2151-11-2**]  01:21 AM
                            [**2151-11-2**]  04:06 AM
                            [**2151-11-2**]  04:33 AM
   WBC
   19.3
   15.4
   Hct
   28.9
   25.1
   Plt
   291
   230
   Cr
   2.0
   2.2
   2.3
   TropT
   0.52
   0.61
   TCO2
   32
   36
   32
   32
   34
   34
   Glucose
   285
   109
   184
   106
   Other labs: PT / PTT / INR:18.0/25.4/1.6, CK / CKMB /
   Troponin-T:115/5/0.61, ALT / AST:165/154, Alk Phos / T Bili:90/0.6,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  Severe PNA and ARDS.
   Move ETT back.  Is very fragile and marginal.  Will continue current
   settings and increase PEEP.
   Call state lab for Influenza results.  Continue antibiotics.
   Try and wean off paralytics today again.
   Cardiac arrests:  likely due to respiratory arrest due to thick
   secretions.  Has been stable since.  Bronch is too high risk currently.
   Shock:  improved.
   ARF:  Increasing creatinine likely due to episode of HOTN yesterday.
   Hyperglycemia:  improved.
   Atsthma:  continue to wean steroids.
   ICU Care
   Nutrition: Will try and take off paralytic today and see if we can TF.
   If not, we will opt for TPN.
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-29**] 08:26 PM
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   20 Gauge - [**2151-11-1**] 09:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :  ICU
   Total time spent:   Critically ill 40 minutes

2151-11-03 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-2**] 05:00 PM
   central line
 URINE CULTURE - At [**2151-11-2**] 05:00 PM
 BLOOD CULTURED - At [**2151-11-2**] 05:15 PM
   arterial line
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-2**] 08:00 PM
   200j 300j
 CARDIAC ARREST - At [**2151-11-2**] 08:00 PM
   .25mg epi given
 EKG - At [**2151-11-2**] 08:27 PM
 FEVER - 101.2
F - [**2151-11-3**] 12:00 AM
   - Steroids cut in half
   - Paralytics off at 1730 --> not initiating own breaths off paralytic
   - 8pm Desat on vent --> bradycardia and hypoTN --> bag mask ventilation
   and norepi --> then developed HTN, tachy to 250's and sbp 300's --> 200
   J shock. Lopressor 2.5mg x1 given. Normalized, then began to desat,
   then bradycardic and hypoTN. Levo restarted, up to 0.3 without much
   response.  Epi 0.25mg given, pt again tachy to 250's and sbp 250's.
   Shocked at 300J with slowing of rate to 150 bpm and normalization of
   HR. Stabilized on vent with just Levo.
   - Family [**Name (NI) 161**], they still want all measures.
   - Temp curve continues upward, without any relief from PR Tylenol
   - Continues currently on Levo, Cisatra
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Cefipime - [**2151-11-2**] 04:00 PM
   Vancomycin - [**2151-11-2**] 10:00 PM
   Metronidazole - [**2151-11-3**] 12:27 AM
   Levofloxacin - [**2151-11-3**] 12:28 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-2**] 08:16 AM
   Metoprolol - [**2151-11-2**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-3**] 12:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-3**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.3
C (99.2
   HR: 109 (82 - 152) bpm
   BP: 159/88(104) {88/50(55) - 161/90(104)} mmHg
   RR: 30 (9 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 16 (15 - 286)mmHg
   Total In:
                                                                  2,426 mL
                                                                    643 mL
   PO:
   TF:
   IVF:
                                                                  2,426 mL
                                                                    643 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    310 mL
   Urine:
                                                                  1,290 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                     1,136 --> 15L positive through LOS mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 350) mL
   Vt (Spontaneous): 0 (0 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.46/43/95/29/5
   Ve: 9.3 L/min
   PaO2 / FiO2: 119
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   8.2 g/dL
   177 mg/dL
   2.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   68 mg/dL
   107 mEq/L
   144 mEq/L
   24.3 %
   14.8 K/uL
        [image002.jpg]
                            [**2151-11-2**]  04:06 AM
                            [**2151-11-2**]  04:33 AM
                            [**2151-11-2**]  11:28 AM
                            [**2151-11-2**]  05:36 PM
                            [**2151-11-2**]  08:00 PM
                            [**2151-11-2**]  08:12 PM
                            [**2151-11-2**]  08:54 PM
                            [**2151-11-2**]  10:22 PM
                            [**2151-11-3**]  12:47 AM
                            [**2151-11-3**]  03:50 AM
   WBC
   15.4
   22.5
   14.8
   Hct
   25.1
   30.4
   24.3
   Plt
   230
   300
   246
   Cr
   2.3
   2.7
   2.6
   TropT
   0.30
   TCO2
   34
   33
   33
   35
   28
   30
   32
   Glucose
   106
   161
   177
   Other labs: PT / PTT / INR:18.0/22.8/1.6   YESTERDAY , CK / CKMB /
   Troponin-T:838/3/0.30     CK TODAY, TROPS DOWN , ALT / AST:142/132
   TODAY, STILL ELEVATED , Alk Phos / T Bili:76/0.7, Amylase / Lipase:/52,
   Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5 %, Mono:3.5 %,
   Eos:0.3 %, Lactic Acid:2.0 mmol/L    YESTERDAY , Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Imaging: last CXR [**11-2**] R base appears worse
   Microbiology: [**11-2**] BCx and UCx pending
   [**11-1**] Sputum negative to date
   [**11-1**] BCx negative to date x2, stool negative, urine negative
   only + Cx [**10-29**] UCx GNR's ~[**2141**]
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, now with increasing vent requirements, and evolving
   metabolic lactic and respiratory acidosis and shock picture, with
   evidence of liver and renal organ damage.
   # Respiratory failure/ARDS.  Patient presented with evidence of lobar R
   sided pneumonia with rapid progression to severe ARDS requiring maximal
   ventilatory support. Pt is now s/p 2 PEA arrests 2 days ago and a
   prolonged episode of instability yesterday of desaturation,
   hypotension, bradycardia followed by HTN and tachy x2, requiring shocks
   x2 and pressors.
   - Continue PRVC for now with attempts to wean FiO2 first
   - Pt continues on Cisatra and NO, would continue today
   - ABx coverage currently with Levaquin (started [**10-29**]), Vanc (started
   [**10-30**]), Cefepime (started [**10-31**]). Cdiff negative and gut flora as
   source seems less likely, Flagyl has been stopped.
   - Patient receiving Peramivir.  State lab results are negative for H1N1
   but we are continuing empirically
   - F/u sputum Cx's and sensitivities
   - Asthma management with IV solumedrol and albuterol [**Last Name (LF) 9850**], [**First Name3 (LF) 124**]
   continue Solumedrol at current dose due to continued instability
   # Repeated PEA arrests/shock: Patient
s situation is very tenuous and
   she decompensates precipitously in setting of hypoxia, presumably due
   to vagal vasodilation.  Responds well to epinephrine.  She does have
   evidence of end-organ damage on labs, with rising Cr and
   transaminitis.  Will continue to check labs as she stabilizes to trend
   for improvement.
   - Need to talk to family and fully explain the gravity of her situation
   and discuss her code status. She remains full code for now.
   # Rising creatinine: patient has slowly rising creatinine, almost
   definitely hypoperfusion during PEA arrest.
   - Check urine lytes and sediment today
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest yesterday, but
   with stable ECGs, we will not be intervening.
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   # Metabolic alkalosis: Normal CO2 and elevated HCO3's on this morning's
   ABG. Most likely a response to recent respiratory acidosis.
   - If continues would consider Acetazolamide but will continue to
   maximize respiratory status
   # Continued febrility: Pt with fever curve trending up. Currently on
   Levaquin, Vanc, Cefepime, and Peramivir.
   # Respiratory alkalosis: adjusted this morning by lowering tidal
   volumes.  Can also decrease respiratory rate as tolerated.  She will
   also benefit from increasing PEEP and lowering FiO2.
   # Hyperglycemia. Blood sugars running in the 600-700's despite 40U/hr
   insulin gtt and several 10-20U boluses. Most likely due to the 3L D5W
   with bicarb to address acidosis, but could be stress response to shock.
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   FEN: bolus IVFs prn, replete electrolytes, we have been holding TF
s in
   the setting of abdominal distention, likely ileus from cisatracurium.
   We will f/u with Nutrition today about starting TPN
   Prophylaxis: Subutaneous heparin and IV PPI
   Access: has new L art line, R IJ and 2 peripherals
   Code:  Full code, confirmed with family.
   Communication: daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-29**] 08:26 PM
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   20 Gauge - [**2151-11-1**] 09:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-11-03 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with PNA, ARDS, respiratory failure.   Came off paralytics
   yesterday - desated
   on the vent, initially became HOTNsive.  Pressors started and BP and HR
   went very high, and
   was shocked.  This happened again and was shocked again.
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-2**] 05:00 PM
   central line
 URINE CULTURE - At [**2151-11-2**] 05:00 PM
 BLOOD CULTURED - At [**2151-11-2**] 05:15 PM
   arterial line
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-2**] 08:00 PM
   200j 300j
 CARDIAC ARREST - At [**2151-11-2**] 08:00 PM
   .25mg epi given
 EKG - At [**2151-11-2**] 08:27 PM
 FEVER - 101.2
F - [**2151-11-3**] 12:00 AM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Cefipime - [**2151-11-2**] 04:00 PM
   Vancomycin - [**2151-11-2**] 10:00 PM
   Levofloxacin - [**2151-11-3**] 12:28 AM
   Metronidazole - [**2151-11-3**] 08:29 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 10 mg/hour
   Cisatracurium - 0.25 mg/Kg/hour
   Other ICU medications:
   Metoprolol - [**2151-11-2**] 08:05 PM
   Famotidine (Pepcid) - [**2151-11-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-3**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-3**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (100.9
   HR: 107 (82 - 152) bpm
   BP: 145/89(102) {88/50(55) - 161/90(104)} mmHg
   RR: 30 (9 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 18 (15 - 286)mmHg
   Total In:
                                                                  2,426 mL
                                                                  1,204 mL
   PO:
   TF:
   IVF:
                                                                  2,426 mL
                                                                  1,204 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    690 mL
   Urine:
                                                                  1,290 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,136 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 350) mL
   Vt (Spontaneous): 0 (0 - 350) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 17.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.42/48/81.[**Numeric Identifier **]/29/5
   Ve: 9.6 L/min
   PaO2 / FiO2: 103
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   246 K/uL
   177 mg/dL
   2.6 mg/dL
   29 mEq/L
   4.5 mEq/L
   68 mg/dL
   107 mEq/L
   144 mEq/L
   25.5 %
   14.8 K/uL
        [image002.jpg]
                            [**2151-11-2**]  11:28 AM
                            [**2151-11-2**]  05:36 PM
                            [**2151-11-2**]  08:00 PM
                            [**2151-11-2**]  08:12 PM
                            [**2151-11-2**]  08:54 PM
                            [**2151-11-2**]  10:22 PM
                            [**2151-11-3**]  12:47 AM
                            [**2151-11-3**]  03:50 AM
                            [**2151-11-3**]  08:15 AM
                            [**2151-11-3**]  08:23 AM
   WBC
   22.5
   14.8
   Hct
   30.4
   24.3
   25.5
   Plt
   300
   246
   Cr
   2.7
   2.6
   TropT
   0.30
   TCO2
   33
   33
   35
   28
   30
   32
   32
   Glucose
   161
   177
   Other labs: PT / PTT / INR:18.0/22.8/1.6, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:142/132, Alk Phos / T Bili:76/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  Wean down NO and increase PEEP to improve
   oxygenation.
   PNA:  On Vanco/levoquin/cefepime/paramevir.  Continue empiric therapy
   for now in the abscence of positive culture data.
   PEA arrest:  Is likely related to discontinuation of the paralytic.
   Will continue for now.
   Fluid overload:  will try to diurese.
   Ashthma wean steroids to half.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-29**] 08:26 PM
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   20 Gauge - [**2151-11-1**] 09:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2151-11-04 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-11-3**] 09:04 PM
   arrythmias
 FEVER - 101.9
F - [**2151-11-3**] 06:00 PM
   - Plan through yesterday had been to decrease NO, try to diurese the pt
   with lasix, then increase the PEEP in an attempt to wean FiO2.
   - Diuresed well
   - In the evening, shut off NO --> sats from 94 to 90, Ppeak 37,
   Pplateau 34 increased PEEP to 15. Plan was: if better, then go down on
   FiO2. If worse, back on NO --> repeat O2 slightly lower, so getting
   repeat and then will decide
   Otherwise:
   - stopped Flagyl
   - ? TPN - no access at present
   - Family meeting: still want everything done, but perhaps starting to
   understand how sick she is?
   - Ulytes: FeNa 2.7
   - Febrile through most of the day
   - Getting hypertense in the evening.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-3**] 12:28 AM
   Metronidazole - [**2151-11-3**] 08:29 AM
   Cefipime - [**2151-11-3**] 03:44 PM
   Vancomycin - [**2151-11-3**] 08:47 PM
   Infusions:
   Cisatracurium - 0.3 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-3**] 08:00 AM
   Furosemide (Lasix) - [**2151-11-3**] 06:57 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-4**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-4**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.6
C (97.9
   HR: 70 (70 - 108) bpm
   BP: 148/86(100) {140/81(94) - 153/93(105)} mmHg
   RR: 30 (28 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 17 (15 - 18)mmHg
   Total In:
                                                                  2,676 mL
                                                                    341 mL
   PO:
   TF:
   IVF:
                                                                  2,616 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                    830 mL
   Urine:
                                                                  3,680 mL
                                                                    830 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                              -1,084 --> still 13L positive through LOS mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 33 cmH2O
   Compliance: 17.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.50/41/68/31/7
   Ve: 9.8 L/min
   PaO2 / FiO2: 85
   Physical Examination
   General Appearance: Intubated, sedated
   Cardiovascular: S1 S2 clear, RRR
   Respiratory / Chest: Inspiratory course sounds. Fair air movement.
   Improved from yesterday
   Abdominal: Distended without appreciable bowel sounds.
   Extremities: Bilateral hands are starting to get edematous, BLE's no
   edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   8.4 g/dL
   127 mg/dL
   2.6 mg/dL
   31 mEq/L
   4.3 mEq/L
   79 mg/dL
   107 mEq/L
   147 mEq/L
   25.4 %
   17.0 K/uL
        [image002.jpg]
                            [**2151-11-2**]  10:22 PM
                            [**2151-11-3**]  12:47 AM
                            [**2151-11-3**]  03:50 AM
                            [**2151-11-3**]  08:15 AM
                            [**2151-11-3**]  08:23 AM
                            [**2151-11-3**]  12:40 PM
                            [**2151-11-3**]  07:09 PM
                            [**2151-11-4**]  12:51 AM
                            [**2151-11-4**]  04:16 AM
                            [**2151-11-4**]  04:41 AM
   WBC
   14.8
   17.0
   Hct
   24.3
   25.5
   25.4
   Plt
   246
   251
   Cr
   2.6
   2.6
   TropT
   0.30
   TCO2
   30
   32
   32
   33
   32
   34
   33
   Glucose
   177
   127
   Other labs: PT / PTT / INR:20.3/25.6/1.9  SLIGHTLY HIGHER THIS AM LAST
   INR 1.6 , CK / CKMB / Troponin-T:838/3/0.30, ALT / AST:111/69     GOING
   DOWN , Alk Phos / T Bili:72/1.1   TBILI GOING UP, Amylase / Lipase:/52,
   Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5 %, Mono:3.5 %,
   Eos:0.3 %, Lactic Acid:1.1 mmol/L   THIS AM , Albumin:2.9 g/dL, LDH:250
   IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL   ELEVATED
   Imaging: [**11-4**] CXR this am is poorer quality film but overall unchanged
   Microbiology:
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, now with increasing vent requirements, and evolving
   metabolic lactic and respiratory acidosis and shock picture, with
   evidence of liver and renal organ damage. Has now had 2 episodes of PEA
   and then 2 episodes of hemodynamic instability requiring shocks.
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 2 PEA arrests days ago and a
   prolonged episode of instability yesterday of desaturation,
   hypotension, bradycardia followed by HTN and tachy x2, requiring shocks
   x2 and pressors.
   - Overall plan at present is to wean the NO (done) and to work with the
   PEEP and FiO2, currently at 15/80%.  Most recent gas is improved so we
   will wean FiO2 as tolerated.
   - Continue PRVC for now
   - Continue Lasix diuresis again today with goal 1L negative as
   tolerated
   - Pt currently off pressors
   - Pt continues on Cisatracurium, would continue today
   - ABx coverage currently with Levaquin (started [**10-29**]), Vanc (started
   [**10-30**]), Cefepime (started [**10-31**]).
   - Cdiff negative and gut flora as source seems less likely, Flagyl has
   been stopped.
   - Patient receiving Peramivir.  State lab results are negative for H1N1
   but we are continuing empirically
 finish 5 day course, today is day
   #5.
   - F/u sputum Cx's and sensitivities --> everything negative to date
   - Asthma management with IV solumedrol and albuterol MDIs; stop
   solumedrol today.
   - Diuresis with lasix 20mg IV for now; aim to get more access so can
   have lasix gtt.  Will give after CT scan.  Her bicarb is trending up
   which we will watch closely.  We will check PM lytes to follow this.
   # Repeated PEA arrests/shock: Patient
s situation is very tenuous and
   she decompensates precipitously in setting of hypoxia, presumably due
   to vagal vasodilation.  Responds well to epinephrine.  She does have
   evidence of end-organ damage on labs, with rising Cr and
   transaminitis.  Will continue to check labs as she stabilizes to trend
   for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   # Persisent fevers/bandemia: Without any culture or clear source.
   Fever curve is up, possibly from unmasking due to stopping fevers.  Or
   from unidentified source.
   - Pan-culture again today (blood, urine, c.diff).  CXR done.
   - Continues on peramivir until [**11-4**], today, and ABx as above
   - Stop steroids.
   - Tylenol scheduled
   - Now off NO with good pressures, so will go to CT scan for CT torso
   and head to evaluate for source.
   - Consider thoracentesis.
   # Metabolic alkalosis with respiratory compensation: likely a response
   to recent hypercarbia.
   - Consider Acetazolamide
   Less active issues
   # Rising creatinine: patient has slowly rising creatinine, almost
   definitely hypoperfusion during PEA arrest.
   - FeNa yesterday was not consistent with pre-renal
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   # Hyperglycemia. On presentation, blood sugars running in the 600-700's
   despite 40U/hr insulin gtt and several 10-20U boluses. Most likely due
   to the 3L D5W with bicarb to address acidosis, but could be stress
   response to shock. More recently, they have been much better
   controlled.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   FEN: Bolus IVFs prn, replete electrolytes, will start to consider TPN
   if she is able to stay off pressors and keep the access open
   Prophylaxis: Subutaneous heparin; change from H2 blocker to IV PPI
   Access: Has L art line, R IJ and 2 peripherals
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-04 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with ARDS/PNA, paralyzed.  No clear cause of PNA.  Patient
   came off of NO, diuresed.
   Febrile for most of the day yesterday.
   24 Hour Events:
 EKG - At [**2151-11-3**] 09:04 PM
   arrythmias
 FEVER - 101.9
F - [**2151-11-3**] 06:00 PM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-3**] 12:28 AM
   Metronidazole - [**2151-11-3**] 08:29 AM
   Cefipime - [**2151-11-3**] 03:44 PM
   Vancomycin - [**2151-11-3**] 08:47 PM
   Infusions:
   Cisatracurium - 0.3 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-3**] 06:57 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-4**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-4**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.6
C (97.9
   HR: 100 (70 - 108) bpm
   BP: 148/86(100) {140/81(94) - 153/93(105)} mmHg
   RR: 30 (28 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 17 (15 - 18)mmHg
   Total In:
                                                                  2,676 mL
                                                                    490 mL
   PO:
   TF:
   IVF:
                                                                  2,616 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                    830 mL
   Urine:
                                                                  3,680 mL
                                                                    830 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,084 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 32 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/41/76.[**Numeric Identifier 299**]/31/6
   Ve: 9.3 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   251 K/uL
   127 mg/dL
   2.6 mg/dL
   31 mEq/L
   4.3 mEq/L
   79 mg/dL
   107 mEq/L
   147 mEq/L
   25.4 %
   17.0 K/uL
        [image002.jpg]
                            [**2151-11-3**]  12:47 AM
                            [**2151-11-3**]  03:50 AM
                            [**2151-11-3**]  08:15 AM
                            [**2151-11-3**]  08:23 AM
                            [**2151-11-3**]  12:40 PM
                            [**2151-11-3**]  07:09 PM
                            [**2151-11-4**]  12:51 AM
                            [**2151-11-4**]  04:16 AM
                            [**2151-11-4**]  04:41 AM
                            [**2151-11-4**]  08:40 AM
   WBC
   14.8
   17.0
   Hct
   24.3
   25.5
   25.4
   Plt
   246
   251
   Cr
   2.6
   2.6
   TropT
   0.30
   TCO2
   32
   32
   33
   32
   34
   33
   31
   Glucose
   177
   127
   Other labs: PT / PTT / INR:20.3/25.6/1.9, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:111/69, Alk Phos / T Bili:72/1.1,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  Some improvement.  Will continue to diuresis and
   try and wean FiO2.
   Continue diuresis.
   Fevers:  Will get CT torso today without contrast.  Will try PO
   contrast.
   Has completed paramivir today.  Will consider tapping Right effusion
   Asthma:  Can stop steroids today.
   Hypernatremia:  Start free water flushes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-29**] 08:26 PM
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2151-11-05 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis/PEA arrest
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-4**] 10:30 AM
 BLOOD CULTURED - At [**2151-11-4**] 10:45 AM
 URINE CULTURE - At [**2151-11-4**] 10:45 AM
   - ABG stable after vent weaning.
   - CT torso: Large right and small left basal effusions with atelectasis
   and enlarged heart suggest CHF.  Fatty liver and small ascites. No
   abscess.
   - Patient diuresing spontaneously to about -300cc, but gave 40mg IV
   lasix ordered this morning.
   - pan culture all pending.
   - patient continued to be hypertensive to 170s/80s so we tried IV
   hydral 10mg Q6hrs PRN.
   - paralysis stopped around 2am.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-3**] 12:28 AM
   Metronidazole - [**2151-11-3**] 08:29 AM
   Cefipime - [**2151-11-3**] 03:44 PM
   Vancomycin - [**2151-11-4**] 09:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-5**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 94 (77 - 111) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (26 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 17 (14 - 17)mmHg
   Total In:
                                                                  2,601 mL
                                                                    284 mL
   PO:
   TF:
   IVF:
                                                                  2,541 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  4,110 mL
                                                                    870 mL
   Urine:
                                                                  4,110 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,509 mL
                                                                   -586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   SpO2: 98%
   ABG: 7.49/42/78.[**Numeric Identifier 7**]/30/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Intubated, sedated
   Cardiovascular: S1 S2 clear, RRR
   Respiratory / Chest: Inspiratory course sounds. Fair air movement.
   Improved from yesterday
   Abdominal: Distended without appreciable bowel sounds.
   Extremities: Bilateral hands are starting to get edematous, BLE's no
   edema
   Labs / Radiology
   239 K/uL
   8.4 g/dL
   133 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.5 mEq/L
   68 mg/dL
   105 mEq/L
   146 mEq/L
   25.5 %
   20.7 K/uL
        [image002.jpg]
                            [**2151-11-3**]  12:40 PM
                            [**2151-11-3**]  07:09 PM
                            [**2151-11-4**]  12:51 AM
                            [**2151-11-4**]  04:16 AM
                            [**2151-11-4**]  04:41 AM
                            [**2151-11-4**]  08:40 AM
                            [**2151-11-4**]  02:19 PM
                            [**2151-11-4**]  05:51 PM
                            [**2151-11-5**]  01:40 AM
                            [**2151-11-5**]  02:58 AM
   WBC
   17.0
   20.0
   20.7
   Hct
   25.4
   24.8
   25.5
   Plt
   [**Telephone/Fax (3) 10188**]
   Cr
   2.6
   2.3
   2.1
   TCO2
   33
   32
   34
   33
   31
   30
   33
   Glucose
   127
   162
   133
   Other labs: PT / PTT / INR:20.3/25.6/1.9, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:80/39, Alk Phos / T Bili:66/1.0,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Imaging: [**11-5**] CXR: improved.
   Microbiology: Sputum and urine: yeast
   blood and urine cx pending
   flu PCR negative
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, now with increasing vent requirements, and evolving
   metabolic lactic and respiratory acidosis and shock picture, with
   evidence of liver and renal organ damage. Has now had 2 episodes of PEA
   and then 2 episodes of hemodynamic instability requiring shocks.
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 2 PEA arrests days ago and a
   prolonged episode of instability yesterday of desaturation,
   hypotension, bradycardia followed by HTN and tachy x2, requiring shocks
   x2 and pressors.
   - Now that pt is a little more stable, will send to CT scan for
   head/torso to find source of infection. Take epinephrine and Levophed
   to CT scanner.
   - After CT scan, overall plan at present is to wean the NO (done) and
   to work with the PEEP and FiO2, currently at 15/80%.  Most recent gas
   is improved so we will wean FiO2 as tolerated.
   - Continue PRVC for now
   - Continue Lasix diuresis again today with goal 1L negative as
   tolerated. Start with small IV bolus AFTER CT scan.  Watch pm lytes as
   HCO3 is rising.
   - Pt currently off pressors
   - Pt continues on Cisatracurium, would continue today
   - ABx coverage currently with Levaquin (started [**10-29**]), Vanc (started
   [**10-30**]), Cefepime (started [**10-31**]).
   - Cdiff negative and gut flora as source seems less likely, Flagyl has
   been stopped.
   - Patient receiving Peramivir.  State lab results are negative for H1N1
   but we are continuing empirically
 finish 5 day course, today is day
   #5.
   - F/u sputum Cx's and sensitivities --> everything negative to date
   - Asthma management with IV solumedrol and albuterol MDIs; stop
   solumedrol today.
   # Repeated PEA arrests/shock: Patient
s situation is very tenuous and
   she decompensates precipitously in setting of hypoxia, presumably due
   to vagal vasodilation.  Responds well to epinephrine.  She does have
   evidence of end-organ damage on labs, with rising Cr and
   transaminitis.  Will continue to check labs as she stabilizes to trend
   for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   # Persisent fevers/bandemia: Without any culture or clear source.
   Fever curve is up, possibly from unmasking due to stopping steroids.
   Or from unidentified source.
   - Pan-culture again today (blood, urine, c.diff).  CXR done.
   - Continues on peramivir until [**11-4**], today, and ABx as above
   - Stop steroids.
   - Tylenol scheduled
   - Now off NO with good pressures, so will go to CT scan for CT torso
   and head to evaluate for source.
   - Consider thoracentesis.
   # HyperNa: Start free H2O flushes in NGT.
   # Metabolic alkalosis with respiratory compensation: likely a response
   to recent hypercarbia.
   - Consider Acetazolamide
   Less active issues
   # Rising creatinine: patient has slowly rising creatinine, almost
   definitely hypoperfusion during PEA arrest.
   - FeNa yesterday was not consistent with pre-renal
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   # Hyperglycemia. On presentation, blood sugars running in the 600-700's
   despite 40U/hr insulin gtt and several 10-20U boluses. Most likely due
   to the 3L D5W with bicarb to address acidosis, but could be stress
   response to shock. More recently, they have been much better
   controlled.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   FEN: Bolus IVFs prn, replete electrolytes, will start to consider TPN
   if she is able to stay off pressors and keep the access open
   Prophylaxis: Subutaneous heparin; change from H2 blocker to IV PPI
   Access: Has L art line, R IJ and 2 peripherals
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-05 10:56:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with ARDS/PNA.   Improved.  Taken off paralytics
   yesterday.  Has been afebrile
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-4**] 10:30 AM
 BLOOD CULTURED - At [**2151-11-4**] 10:45 AM
 URINE CULTURE - At [**2151-11-4**] 10:45 AM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-3**] 12:28 AM
   Metronidazole - [**2151-11-3**] 08:29 AM
   Cefipime - [**2151-11-3**] 03:44 PM
   Vancomycin - [**2151-11-4**] 09:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   hydral
   paxil
   lasix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-5**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 99 (77 - 111) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (26 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 17 (14 - 17)mmHg
   Total In:
                                                                  2,601 mL
                                                                    465 mL
   PO:
   TF:
   IVF:
                                                                  2,541 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  4,110 mL
                                                                  1,250 mL
   Urine:
                                                                  4,110 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,509 mL
                                                                   -784 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.51/40/80.[**Numeric Identifier 20**]/30/7
   Ve: 8.9 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   239 K/uL
   133 mg/dL
   2.1 mg/dL
   30 mEq/L
   3.5 mEq/L
   68 mg/dL
   105 mEq/L
   146 mEq/L
   25.5 %
   20.7 K/uL
        [image002.jpg]
                            [**2151-11-3**]  07:09 PM
                            [**2151-11-4**]  12:51 AM
                            [**2151-11-4**]  04:16 AM
                            [**2151-11-4**]  04:41 AM
                            [**2151-11-4**]  08:40 AM
                            [**2151-11-4**]  02:19 PM
                            [**2151-11-4**]  05:51 PM
                            [**2151-11-5**]  01:40 AM
                            [**2151-11-5**]  02:58 AM
                            [**2151-11-5**]  09:07 AM
   WBC
   17.0
   20.0
   20.7
   Hct
   25.4
   24.8
   25.5
   Plt
   [**Telephone/Fax (3) 10188**]
   Cr
   2.6
   2.3
   2.1
   TCO2
   32
   34
   33
   31
   30
   33
   33
   Glucose
   127
   162
   133
   Other labs: PT / PTT / INR:20.3/25.6/1.9, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:80/39, Alk Phos / T Bili:66/1.0,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:250 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Microbiology: Flu PCR negative
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  PNA/ARDS without clear cause.  Is slowing
   improving.  Has completed empiric paramavir
   fluid overload:  continue diuresis
   hypernatremia:  replete free water
   had large BM - so will start TFs.
   DM:  may need drip with restart of TFs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-10-29**] 08:26 PM
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2151-11-06 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   This morning became tachycardic to 130-140 and had PVC's.  Blood
   pressure was stable at SBP 110, but low for her.  Had a call from micro
   lab that she is growing gram variable rods in one blood culture.  Was
   given a fluid bolus and responded with HR to 120's and SBP to 120.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Metronidazole - [**2151-11-3**] 08:29 AM
   Cefipime - [**2151-11-3**] 03:44 PM
   Vancomycin - [**2151-11-5**] 08:49 PM
   Levofloxacin - [**2151-11-6**] 01:00 AM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2151-11-6**] 05:14 AM
   Fentanyl - [**2151-11-6**] 05:14 AM
   Other medications:
   Flowsheet Data as of  [**2151-11-6**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 129 (81 - 132) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,560 mL
                                                                  1,423 mL
   PO:
             TF:
                                                                    110 mL
                                                                    118 mL
   IVF:
                                                                    950 mL
                                                                    745 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                    480 mL
   Urine:
                                                                  3,950 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,390 mL
                                                                    943 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.42/49/73.[**Numeric Identifier 252**]/33/5
   Ve: 7.7 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   8.0 g/dL
   134 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.4 mEq/L
   55 mg/dL
   106 mEq/L
   144 mEq/L
   23.8 %
   14.7 K/uL
        [image002.jpg]
                            [**2151-11-5**]  01:40 AM
                            [**2151-11-5**]  02:58 AM
                            [**2151-11-5**]  09:07 AM
                            [**2151-11-5**]  12:32 PM
                            [**2151-11-5**]  02:41 PM
                            [**2151-11-5**]  02:58 PM
                            [**2151-11-5**]  11:51 PM
                            [**2151-11-6**]  02:46 AM
                            [**2151-11-6**]  03:20 AM
                            [**2151-11-6**]  06:32 AM
   WBC
   20.7
   14.7
   Hct
   25.5
   23.8
   Plt
   239
   235
   Cr
   2.1
   1.8
   1.6
   TCO2
   33
   33
   34
   35
   35
   34
   33
   Glucose
   133
   98
   134
   Other labs: PT / PTT / INR:15.3/24.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:62/45, Alk Phos / T Bili:66/1.1,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:444 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging:  CXR [**2151-11-5**]
   The ET tube tip is 6.5 cm above the carina. The NG tube tip is in the
   stomach. The right internal jugular line tip is at mid SVC.
   Cardiomegaly is
   unchanged. There is overall no significant change in the widespread
   parenchymal opacities and bibasal right more than left atelectasis as
   well as
   bilateral pleural effusion. There is no evidence of failure within the
   limitations of the chest radiograph and there is no evidence of
   pneumothorax.
   Torso CT [**2151-11-5**]
   The ET tube tip is 6.5 cm above the carina. The NG tube tip is in the
   stomach. The right internal jugular line tip is at mid SVC.
   Cardiomegaly is
   unchanged. There is overall no significant change in the widespread
   parenchymal opacities and bibasal right more than left atelectasis as
   well as
   bilateral pleural effusion. There is no evidence of failure within the
   limitations of the chest radiograph and there is no evidence of
   pneumothorax.
   Microbiology: [**2151-11-5**] 9:01 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2151-11-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN
   [**2151-11-4**] 10:04 am BLOOD CULTURE      Source: Line-CVL SET 2.
      Blood Culture, Routine (Preliminary):
         GRAM NEGATIVE ROD(S).
      Anaerobic Bottle Gram Stain (Final [**2151-11-5**]):      GRAM VARIABLE
   ROD(S).    REPORTED BY PHONE TO [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ 20:16 [**2151-11-4**].
      URINE CULTURE (Final [**2151-11-5**]):
         YEAST.    >100,000 ORGANISMS/ML..
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, now with increasing vent requirements, and evolving
   metabolic lactic and respiratory acidosis and shock picture, with
   evidence of liver and renal organ damage. Has now had 2 episodes of PEA
   and then 2 episodes of hemodynamic instability requiring shocks.
     # Respiratory failure/ARDS.  Patient improving this morning, taken
   off of paralysis in early AM.  In the past has become unstable ~12
   hours after stopping paralysis, so we will monitor closely.  We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound.  For etiology, patient presented with evidence of lobar R
   sided pneumonia with rapid progression to severe ARDS requiring maximal
   ventilatory support. Pt is now s/p 2 PEA arrests days ago and a
   prolonged episode of instability yesterday of desaturation,
   hypotension, bradycardia followed by HTN and tachy x2, requiring shocks
   x2 and pressors.
   - Wean off of FiO2 and PEEP as tolerated.
   - Continue PRVC for now
   - Hold on Lasix diuresis while w/u tachycardia
   - Continue Levaquin (started [**10-29**]), Vanc (started [**10-30**]), Cefepime
   (started [**10-31**]) for severe pneumonia, plan is for a 15-day course.
   - F/u sputum Cx's and sensitivities
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   .
   #Tachycardia: Tachycardia last night and this morning that responded to
   fluid bolus of 500cc.  Could be due to blood loss as Hct is low vs
   sepsis.  Patient had Gm variable rods in a blood culture yesterday.
   - guaiac stools
   - consult GI if positive
   - blood transfusion
   - hemolytic w/u: haptoglobin, fibrinogen, tbili and ibili, smear, LDH
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
    .
   # HyperNa: Start free H2O flushes w/ tube feeds.
   - continue free water flushes in Gtube.
   .
   # Metabolic alkalosis with respiratory compensation: likely a response
   to recent hypercarbia. This has resolved.
   - continue to check ABG
s with change in status and vent settings.
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   was difficult to control yesterday when on D5W.  We will continue the
   insulin gtt today while starting tube feeds.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars.
   .
   Less active issues
   # Rising creatinine: today improving slightly, we will continue to
   trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, start tube feeds with free water
   flushes for hypernatremia.
   Prophylaxis: Subutaneous heparin; H2 blocker
   Access: Has L art line, R IJ and 2 peripherals
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-06 09:48:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, s/p cardiac
   arrest, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood culture growing gram "variable"  rods. Episode of tachycardia
   last night with isolated PVC's  and low BP. Given fliuds with
   improvement.
   Still on PEEP 15 with tidal volume 350.
   Afebrile.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Cefipime - [**2151-11-3**] 03:44 PM
   Vancomycin - [**2151-11-5**] 08:49 PM
   Levofloxacin - [**2151-11-6**] 01:00 AM
   Infusions:
   Insulin - Regular - 3.5 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2151-11-6**] 05:14 AM
   Midazolam (Versed) - [**2151-11-6**] 05:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-6**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 124 (81 - 132) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,560 mL
                                                                  1,528 mL
   PO:
   TF:
                                                                    110 mL
                                                                    157 mL
   IVF:
                                                                    950 mL
                                                                    781 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                    700 mL
   Urine:
                                                                  3,950 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,390 mL
                                                                    828 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/49/73.[**Numeric Identifier 252**]/33/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Coarse on left, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+ edema thighs, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   235 K/uL
   134 mg/dL
   1.6 mg/dL
   33 mEq/L
   4.4 mEq/L
   55 mg/dL
   106 mEq/L
   144 mEq/L
   23.8 %
   14.7 K/uL
        [image002.jpg]
                            [**2151-11-5**]  01:40 AM
                            [**2151-11-5**]  02:58 AM
                            [**2151-11-5**]  09:07 AM
                            [**2151-11-5**]  12:32 PM
                            [**2151-11-5**]  02:41 PM
                            [**2151-11-5**]  02:58 PM
                            [**2151-11-5**]  11:51 PM
                            [**2151-11-6**]  02:46 AM
                            [**2151-11-6**]  03:20 AM
                            [**2151-11-6**]  06:32 AM
   WBC
   20.7
   14.7
   Hct
   25.5
   23.8
   Plt
   239
   235
   Cr
   2.1
   1.8
   1.6
   TCO2
   33
   33
   34
   35
   35
   34
   33
   Glucose
   133
   98
   134
   Other labs: PT / PTT / INR:15.3/24.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:62/45, Alk Phos / T Bili:66/1.1,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL,
   LDH:444 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR: improved infiltrates on right. Possible LLL retrocardiac
   streaky infiltrate.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ACUTE RENAL FAIULRE
   ====================
   Still on high levels of PEEP with adequate oxygenation. Will try to
   reduce FIO2 today.
   Creat improving. Electrolytes acceptable. Metabolic alkalosis present,
   likely due in part to compensation for respiratory acidosis, although
   has evidence of a primary metabolic alkalosis (diuresed yesterday)
   Meropenem added today to antibiotics given positive blood culture.
   CVP 11 this AM on PEEP 15 suggesting she is intravascularly volume
   depleted. Would have postivie fluid balance today to see if that helps
   tachycardia. Start with half normal saline in light of mild
   hypernatremia.
   Reduce FIO2 nowt to 0.5. If she tolerates that well, woudl begin to
   reduce PEEP. CXR looks better with less alveolar infiltrates.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-6**] 08:07 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-11-07 11:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-6**] 01:18 PM
   repeated from central line
   - replaced foley (had yeast)
   - 1/2 NS 1 L bolus (hypernatremic) --> f/u UOP: good through the night.
   - Started Merrem for Gram variable from CVL
   - Had gone down on FiO2 60 --> 50, then down on PEEP, then desatted
   --> did recruitment maneuvers --> back now to 50%, PEEP 15 --> weaned
   down to 14, was doing well --> tried down to 13 but ABG showing
   decreased O2 7.44/44/66 (down from 85) --> back to PEEP 14, still 50%
   - 3pm chem: HCO3 went down from 33 --> 31, Cr 1.6 --> 1.7, otherwise
   same.
   - Vanc trough 18.8
   - During rounds, pt was becoming more dysynchronous with the vent,
   hypertensive and tachycardic. Got Hydral prn without good response.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-6**] 01:00 AM
   Vancomycin - [**2151-11-6**] 08:00 PM
   Meropenem - [**2151-11-7**] 09:17 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-7**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 109 (102 - 128) bpm
   BP: 148/86   sbp 109-162 mmHg
   RR: 24 (24 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 15 (15 - 19)mmHg
   Total In:
                                                                  4,338 mL
                                                                  1,435 mL
   PO:
   TF:
                                                                    641 mL
                                                                    526 mL
   IVF:
                                                                  2,677 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                  1,280 mL
   Urine:
                                                                  1,920 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                   2,418  --> 12.5 positive through LOS mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.41/46/77/29/3   --> 5am this morning on PRVC 14/50%/ 340x24
   Ve: 7.4 L/min
   PaO2 / FiO2: 154
   Labs / Radiology
   244 K/uL
   7.7 g/dL
   118 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   47 mg/dL
   109 mEq/L
   146 mEq/L
   23.1 %
   15.2 K/uL
        [image002.jpg]
                            [**2151-11-6**]  02:46 AM
                            [**2151-11-6**]  03:20 AM
                            [**2151-11-6**]  06:32 AM
                            [**2151-11-6**]  10:35 AM
                            [**2151-11-6**]  03:00 PM
                            [**2151-11-6**]  06:10 PM
                            [**2151-11-6**]  10:50 PM
                            [**2151-11-7**]  01:33 AM
                            [**2151-11-7**]  04:15 AM
                            [**2151-11-7**]  05:01 AM
   WBC
   14.7
   15.2  improved from 20's
   Hct
   23.8
   23.1  slowly overall trending down
   Plt
   235
   244 stable
   Cr
   1.6
   1.7
   1.5  IMPROVED
   TCO2
   34
   33
   34
   33
   33
   31
   30
   Glucose
   134
   155
   118
   Other labs: PT / PTT / INR:14.1/24.1/1.2   IMPROVED , CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:61/72   ALT TRENDING DOWN, AST UP A
   LITTLE , Alk Phos / T Bili:71/1.1  STABLE , Amylase / Lipase:/52,
   Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5 %, Mono:3.5 %,
   Eos:0.3 %, Lactic Acid:0.7 mmol/L   THIS AM , Albumin:2.9 g/dL, LDH:443
   IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL  ELEVATED
   Fluid analysis / Other labs: vanc level yesterday 18.8
   Imaging: [**11-7**] CXR this am
 ordered but not done. Will get stat one
   now
   [**11-4**] CT abd/pelvis
   1. Large right basal effusion and small left basal effusion with
   atelectasis
   in the lower lobes bilaterally. The heart is enlarged. Scattered
   ground-glass
   opacities seen throughout both lungs, the appearances may represent
   fluid
   overload versus infection.
   2. 5-mm nodular opacity in the right middle lobe should be followed up
   with a
   chest CT in three months if the patient is at increased risk or has
   prior
   history of malignancy, otherwise followup chest CT in one year is
   recommended
   as [**First Name8 (NamePattern2) 77**] [**Last Name (un) 340**] guidelines.
   3. Abdominopelvic ascites and fatty liver.
   4. No abscess or collection present in the abdomen or pelvis.
   Microbiology: [**11-6**] BCX pending
   [**11-5**] sputum no growth
   [**11-4**] GNR's in blood
 per report from lab, this is now being called a
   negative Cx
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage. Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  We were unable to find a fluid collection
   amenable to thoracentesis on ultrasound.  For etiology, patient
   presented with evidence of lobar R sided pneumonia with rapid
   progression to severe ARDS requiring maximal ventilatory support. Pt is
   now s/p 7 PEA arrests.
   Overnight, the pt was weaned down from a PEEP 15
 14 which she
   tolerated well and gases were reasonable, but dropped O2 when taken
   down to PEEP of 13, so brought back up to PEEP 14. Also this morning
   she was getting dysynchronous with the vent.
   - Today we will do a trial of pressure support and let her breath on
   her own. Repeat ABG this afternoon.
   - Will give Lasix 40mg IV x1 today and f/u UOP later in the day. Her
   CVP is currently 17 indicating she is fluid resuscitated, if not
   overloaded a bit.
   - Get stat CXR that was not done this morning and f/u
   - Continue Levaquin (started [**10-29**]
 [**2151-11-7**] = day 10), Vanc (started
   [**10-30**]
 [**2151-11-7**] = day 9), and Cefepime (started [**10-31**]
 [**2151-11-7**] = day
   8) for severe pneumonia, plan is for a 15-day course.  Meropenem
   started and cefipime stopped because positive blood cultures despite
   being on antibiotics
   - F/u sputum Cx's and sensitivities
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.
   - Re-pan Cx today
   - F/u Cx
s already drawn
   - ABx as above
   - ID recs holding the course for now, daily BCx
s, and consider
   changing the lines
   - Will hold off on changing lines for now, but something to keep in
   mind
   #Tachycardia and HTN: The tachycardia responded several days ago to
   500cc boluses of fluids, but not so much yesterday when she got 1L
   fluids. She was on a significant home regimen of HTN meds.
   - Address both tachycardia and HTN by starting Labetalol 600mg PO tid
   through NGT, and IV Hydral for breakthrough HTN.
   - Continue to address underlying infectious and respiratory issues.
    # HyperNa: Currently getting  free H2O flushes w/ tube feeds. HyperNa
   this am, will repeat Na this afternoon and if worse, would consider
   increasing the free H20 flushes in Gtube.
   LESS ACTIVE/STABLE ISSUES:
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars.
   #Yeast in urine: Foley catheter replaced [**2151-11-6**].
   Less active issues
   # Rising creatinine: today improving slightly, we will continue to
   trend.
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   FEN: No IVFs, replete electrolytes, tube feeds with free water flushes
   for hypernatremia.
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has L art line, R IJ and 2 peripherals
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-07 13:04:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, acute renal
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did not tolerate decrease in PEEP yesterday due to desaturation. This
   AM, somewhat dys-synchronous on the ventilator. Fluid balance positive
   2L yesterday.
   Has been hemodynamically stable. Remains febrile.
   Micro lab now indicating that the original positive blood culture is
   now considered negative.
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-6**] 01:18 PM
   repeated from central line
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-6**] 01:00 AM
   Vancomycin - [**2151-11-6**] 08:00 PM
   Meropenem - [**2151-11-7**] 09:17 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-7**] 08:00 AM
   Hydralazine - [**2151-11-7**] 11:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-7**] 01:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 111 (102 - 121) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 28 (24 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 17 (15 - 17)mmHg
   Total In:
                                                                  4,338 mL
                                                                  1,522 mL
   PO:
   TF:
                                                                    641 mL
                                                                    591 mL
   IVF:
                                                                  2,677 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                  1,340 mL
   Urine:
                                                                  1,920 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,418 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.41/46/77/29/3
   Ve: 7.4 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   244 K/uL
   118 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.5 mEq/L
   47 mg/dL
   109 mEq/L
   146 mEq/L
   23.1 %
   15.2 K/uL
        [image002.jpg]
                            [**2151-11-6**]  02:46 AM
                            [**2151-11-6**]  03:20 AM
                            [**2151-11-6**]  06:32 AM
                            [**2151-11-6**]  10:35 AM
                            [**2151-11-6**]  03:00 PM
                            [**2151-11-6**]  06:10 PM
                            [**2151-11-6**]  10:50 PM
                            [**2151-11-7**]  01:33 AM
                            [**2151-11-7**]  04:15 AM
                            [**2151-11-7**]  05:01 AM
   WBC
   14.7
   15.2
   Hct
   23.8
   23.1
   Plt
   235
   244
   Cr
   1.6
   1.7
   1.5
   TCO2
   34
   33
   34
   33
   33
   31
   30
   Glucose
   134
   155
   118
   Other labs: PT / PTT / INR:14.1/24.1/1.2, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:61/72, Alk Phos / T Bili:71/1.1,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:443 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ==================================
   Patient switched to PSV on rounds (14/14); tidal volumes still 300-350.
   O2 sats acceptable. Resp rate about 22-24. Will diurese now; fliuds
   were 2L positive yesterday (slight expiratory grunt on exam). Repeat
   CXR today. Film yesterday was appearing more consistent with focal
   pneumonia than ARDS.  Continues on antibiotics. WBC remains elevated.
   Tachycardia and hypertension continue to be intermittent problems.
   [**Name (NI) **] was on beta blocker as outpatient; will restart.
   Serum Na elevated. Needs additional free water replacement.
   Hct trending down. Not at transfusion threshold now.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-6**] 11:12 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-11-08 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-7**] 12:00 PM
   1 set from the arterial line
 BLOOD CULTURED - At [**2151-11-7**] 12:10 PM
   1 set from the central line
   - hypertensive; added labetalol PO and increased dose of prn hydral.
   -cxr: no significant change
   -per ID: daily blood cultures, keep antibiotics as they are
   -40 IV lasix given at 1pm and again at 11pm with good responses both
   times.
   - showing paradoxical breathing around 10pm, worry that she is tiring
   out on pressure support, put back on assist control overnight.
   - hypertensive again late in the day, added PO amlodipine (on
   nifedipine at home), but gave hydral as amlodipine will take some time
   to work.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-7**] 08:13 PM
   Meropenem - [**2151-11-7**] 10:45 PM
   Levofloxacin - [**2151-11-8**] 12:51 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Insulin - Regular - 5 units/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-7**] 04:38 PM
   Furosemide (Lasix) - [**2151-11-7**] 10:45 PM
   Hydralazine - [**2151-11-8**] 12:51 AM
   Other medications:
   Flowsheet Data as of  [**2151-11-8**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.2
   HR: 100 (89 - 114) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (17 - 50) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 19 (6 - 19)mmHg
   Total In:
                                                                  3,230 mL
                                                                  1,109 mL
   PO:
   TF:
                                                                  1,161 mL
                                                                    376 mL
   IVF:
                                                                    839 mL
                                                                    433 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                  1,520 mL
   Urine:
                                                                  2,860 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 0 (0 - 320) mL
   Vt (Spontaneous): 225 (0 - 384) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 23
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.45/44/91.[**Numeric Identifier 253**]/28/5
   Ve: 5.4 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   7.3 g/dL
   129 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   43 mg/dL
   105 mEq/L
   142 mEq/L
   21.9 %
   15.1 K/uL
        [image002.jpg]
                            [**2151-11-6**]  10:50 PM
                            [**2151-11-7**]  01:33 AM
                            [**2151-11-7**]  04:15 AM
                            [**2151-11-7**]  05:01 AM
                            [**2151-11-7**]  02:32 PM
                            [**2151-11-7**]  06:09 PM
                            [**2151-11-7**]  09:17 PM
                            [**2151-11-8**]  03:24 AM
                            [**2151-11-8**]  03:49 AM
                            [**2151-11-8**]  06:04 AM
   WBC
   15.2
   15.1
   Hct
   23.1
   21.9
   Plt
   244
   267
   Cr
   1.5
   1.4
   TCO2
   33
   31
   30
   30
   31
   31
   31
   32
   Glucose
   118
   129
   Other labs: PT / PTT / INR:14.8/25.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:58/65, Alk Phos / T Bili:75/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:437 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging:  CXR [**2151-11-7**]
   One view. Comparison with previous study done, [**2151-11-6**]. The left lung
   is
   partially obscured by ventilator tubing. Widespread patchy parenchymal
   opacities are again demonstrated. There is continued evidence of a
   small right
   effusion. Mediastinal structures are unchanged. An endotracheal tube,
   nasogastric tube, and right internal jugular catheter remain in place.
   Allowing for differences in technique, there is no definite change.
   Microbiology: All negative to date except yeast in urine and sputum.
   Also, earlier report of GNR in blood is actually no organisms
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage. Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
   .
    # Respiratory failure/ARDS.  We were unable to find a fluid collection
   amenable to thoracentesis on ultrasound.  For etiology, patient
   presented with evidence of lobar R sided pneumonia with rapid
   progression to severe ARDS requiring maximal ventilatory support. Pt is
   now s/p 7 PEA arrests.
   .
   Overnight, the pt was weaned down from a PEEP 15
 14 which she
   tolerated well and gases were reasonable, but dropped O2 when taken
   down to PEEP of 13, so brought back up to PEEP 14. Also this morning
   she was getting dysynchronous with the vent.  Tried pressure support
   trial and patient breathing with abdomen.  Back to volume control, but
   still breathing with abdomen.
   - Will give Lasix 40mg IV x1 today and f/u UOP later in the day. Her
   CVP is currently 17 indicating she is fluid resuscitated, if not
   overloaded a bit.
   - Get stat CXR that was not done this morning and f/u
   - Continue Levaquin (started [**10-29**]; on day 11), Vanc (started [**10-30**]; on
   day 9), and Cefepime (started [**10-31**]; on day 8) for severe pneumonia,
   plan is for a 15-day course.  Meropenem started and cefipime stopped
   because positive blood cultures despite being on antibiotics.  These
   blood cultures are now reported as negative.
   - F/u sputum Cx's and sensitivities
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.
   - F/u Cx
s already drawn
   - ABx as above
   - ID recs holding the course for now, daily BCx
s, and consider
   changing the lines
   - Will hold off on changing lines for now, but something to keep in
   mind
   .
   #Tachycardia and HTN: The tachycardia responded several days ago to
   500cc boluses of fluids, but not so much yesterday when she got 1L
   fluids. She was on a significant home regimen of HTN meds.
   - Address both tachycardia and HTN by starting Labetalol 600mg PO tid
   through NGT, and IV Hydral for breakthrough HTN.
   - Continue to address underlying infectious and respiratory issues.
   .
    # HyperNa: Currently getting  free H2O flushes w/ tube feeds.  Normal
   blood Na this morning.
   LESS ACTIVE/STABLE ISSUES:
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Continue insulin gtt with insulin boluses on top
   - Q1hr blood sugars.
   #Yeast in urine: Foley catheter replaced [**2151-11-6**].
   Less active issues
   # Rising creatinine: today improving slightly, we will continue to
   trend.
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   FEN: No IVFs, replete electrolytes, tube feeds with free water flushes
   for hypernatremia.
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has L art line, R IJ and 2 peripherals
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-08 12:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with PNA/ARDS no definate bug.
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-7**] 12:00 PM
   1 set from the arterial line
 BLOOD CULTURED - At [**2151-11-7**] 12:10 PM
   1 set from the central line
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-7**] 08:13 PM
   Levofloxacin - [**2151-11-8**] 12:51 AM
   Meropenem - [**2151-11-8**] 09:43 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Insulin - Regular - 2.5 units/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-7**] 10:45 PM
   Famotidine (Pepcid) - [**2151-11-8**] 09:13 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-8**] 09:13 AM
   Hydralazine - [**2151-11-8**] 11:05 AM
   Other medications:
   norvasc
   labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-8**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98
   HR: 78 (74 - 110) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (17 - 50) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 17 (6 - 20)mmHg
   Total In:
                                                                  3,230 mL
                                                                  1,880 mL
   PO:
   TF:
                                                                  1,161 mL
                                                                    626 mL
   IVF:
                                                                    839 mL
                                                                    654 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                  1,970 mL
   Urine:
                                                                  2,860 mL
                                                                  1,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 0 (0 - 320) mL
   Vt (Spontaneous): 361 (0 - 384) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 19
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.43/45/91/28/4
   Ve: 6.9 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Tone: Decreased
   Labs / Radiology
   7.3 g/dL
   267 K/uL
   129 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   43 mg/dL
   105 mEq/L
   142 mEq/L
   21.9 %
   15.1 K/uL
        [image002.jpg]
                            [**2151-11-7**]  01:33 AM
                            [**2151-11-7**]  04:15 AM
                            [**2151-11-7**]  05:01 AM
                            [**2151-11-7**]  02:32 PM
                            [**2151-11-7**]  06:09 PM
                            [**2151-11-7**]  09:17 PM
                            [**2151-11-8**]  03:24 AM
                            [**2151-11-8**]  03:49 AM
                            [**2151-11-8**]  06:04 AM
                            [**2151-11-8**]  09:26 AM
   WBC
   15.2
   15.1
   Hct
   23.1
   21.9
   Plt
   244
   267
   Cr
   1.5
   1.4
   TCO2
   31
   30
   30
   31
   31
   31
   32
   31
   Glucose
   118
   129
   Other labs: PT / PTT / INR:14.8/25.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:58/65, Alk Phos / T Bili:75/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:437 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  Much improved now on PSV.  continue to wean PEEP
   as tolerated.
   Fluid overload:  continue diuresis
   fevers/antibiotics:  only low grade temps currently.  will discuss with
   ID about antibiotics given blood cx was a mistake.
   HTN:  on hydralizine, labetolol, norvasc
   Acute renal failure:  Improving
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-8**] 04:54 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2151-11-09 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 60 IV lasix given with a goal of 1L off
   - weaned to PSV 12 and 12- let rest at this
   - kept insulin drip because much better controlled with drip and still
   critically ill
   - ID recs: no abio changes, UA and Ucx b/c of yeast, renal u/s
   - Had to go back on CMV because hypertensive and low sats.  Went back
   to pressure support in the morning (5am).  Can recheck gas in the am.
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-8**] 12:51 AM
   Vancomycin - [**2151-11-8**] 08:27 PM
   Meropenem - [**2151-11-8**] 10:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-8**] 09:13 AM
   Furosemide (Lasix) - [**2151-11-8**] 05:59 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-9**] 12:15 AM
   Hydralazine - [**2151-11-9**] 12:15 AM
   Other medications:
   Flowsheet Data as of  [**2151-11-9**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 100 (74 - 101) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 44 (17 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 16 (8 - 20)mmHg
   Total In:
                                                                  3,126 mL
                                                                    993 mL
   PO:
   TF:
                                                                  1,203 mL
                                                                    324 mL
   IVF:
                                                                  1,073 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                    430 mL
   Urine:
                                                                  4,180 mL
                                                                    430 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,704 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 378) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32 cmH2O/mL
   SpO2: 97%
   ABG: 7.50/39/95.[**Numeric Identifier 252**]/29/6
   Ve: 6.6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen: Intubated and sedated
   Eyes: pinpoint and minimally reactive to light
   Chest: rhonchi bilaterally R>L
   Heart: NRRR; no murmurs
   Abdomen: distended,soft, BS present
   Ext: no-trace edema; warm and well-perfused.
   Labs / Radiology
   269 K/uL
   7.1 g/dL
   129 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   45 mg/dL
   103 mEq/L
   142 mEq/L
   22.3 %
   14.0 K/uL
        [image002.jpg]
                            [**2151-11-7**]  09:17 PM
                            [**2151-11-8**]  03:24 AM
                            [**2151-11-8**]  03:49 AM
                            [**2151-11-8**]  06:04 AM
                            [**2151-11-8**]  09:26 AM
                            [**2151-11-8**]  02:49 PM
                            [**2151-11-8**]  04:00 PM
                            [**2151-11-8**]  04:37 PM
                             [**2151-11-9**]  02:00 AM
                             [**2151-11-9**]  02:30 AM
   WBC
   15.1
   15.0
   14.0
   Hct
   21.9
   22.3
   22.3
   Plt
   [**Telephone/Fax (3) 10277**]
   Cr
   1.4
   1.5
   1.4
   TCO2
   31
   31
   32
   31
   32
   31
   31
   Glucose
   129
   145
   129
   Other labs: PT / PTT / INR:14.6/24.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR [**2151-11-8**]
   IMPRESSION:
   1. Improved pulmonary edema.
   2. Stable right-sided effusion, right lower lobe pneumonia, and left
   lower
   lobe atelectasis.
   Microbiology: Blood cultures and urine culture negative for yeast
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  For etiology, patient presented with
   evidence of lobar R-sided pneumonia with rapid progression to severe
   ARDS requiring maximal ventilatory support. Pt is now s/p 7 PEA
   arrests.   We were unable to find a fluid collection amenable to
   thoracentesis on ultrasound
   .
   Overnight, the pt was weaned to a PSV on 12 and 12.  She tolerated this
   well for several hours, but became HTN, desaturated and went back to
   volume control overnight.  Was weaned back to PSV 12/12 this morning.
   0
   - Will give Lasix 40mg IV x1 today and f/u UOP later in the day.
   - Continue Levaquin (started [**10-29**]; on day 12), Vanc (started [**10-30**]; on
   day 10), and Cefepime (started [**10-31**]; on day 9) for severe pneumonia,
   plan is for a 15-day course.  Meropenem started and cefipime stopped
   because positive blood cultures despite being on antibiotics.  These
   blood cultures are now reported as negative.
   - ID recs on current abio regimen
   - resend sputum because change in character of sputum
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.   Afebrile overnight.
   - F/u Cx
s already drawn
   - ABx as above
   - ID recs holding the course for now, daily BCx
s, and consider
   changing the lines
   - Will hold off on changing lines for now, but something to keep in
   mind
   .
   #Tachycardia and HTN: The tachycardia responded several days ago to
   500cc boluses of fluids, but not so much yesterday when she got 1L
   fluids. She was on a significant home regimen of HTN meds.
   - Address both tachycardia and HTN by starting Labetalol 600mg PO tid
   through NGT, and IV Hydral for breakthrough HTN.
   - Was started on amlodipine 10mg
   - Continue to address underlying infectious and respiratory issues.
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Currently getting  free H2O flushes w/ tube feeds.  Normal
   blood Na this morning.
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Will keep on insulin drip for now since sugars were so hard to
   control before.
   - Q2hr blood sugars.
   .
   #Yeast in urine: Foley catheter replaced [**2151-11-6**].  No yeast in most
   recent urine culture.
   .
   # Rising creatinine: today improving slightly, we will continue to
   trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, tube feeds with free water flushes
   for hypernatremia.
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has L art line, R IJ and 2 peripherals. Needs bedside eval for
   PICC and go to IR for PICC if cannot at bedside.  Then d/c IJ
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-09 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with PNA/ARDS.  Patient with some desaturation overnight.
   Required going back
   on A/C.  Has been afebrile.
   24 Hour Events:
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-8**] 12:51 AM
   Vancomycin - [**2151-11-8**] 08:27 PM
   Meropenem - [**2151-11-8**] 10:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-8**] 05:59 PM
   Hydralazine - [**2151-11-9**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-9**] 08:14 AM
   Famotidine (Pepcid) - [**2151-11-9**] 08:14 AM
   Fentanyl - [**2151-11-9**] 09:52 AM
   Midazolam (Versed) - [**2151-11-9**] 09:52 AM
   Other medications:
   asa
   norvasc
   labetolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-9**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 72 (72 - 101) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (17 - 44) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 15 (8 - 19)mmHg
   Total In:
                                                                  3,125 mL
                                                                  1,264 mL
   PO:
   TF:
                                                                  1,203 mL
                                                                    506 mL
   IVF:
                                                                  1,073 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                    630 mL
   Urine:
                                                                  4,180 mL
                                                                    630 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,705 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 311 (0 - 369) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 27
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32 cmH2O/mL
   SpO2: 93%
   ABG: 7.50/41/81.[**Numeric Identifier **]/29/7
   Ve: 7.9 L/min
   PaO2 / FiO2: 137
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, U/E>LE
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Decreased
   Labs / Radiology
   7.1 g/dL
   269 K/uL
   129 mg/dL
   1.4 mg/dL
   29 mEq/L
   4.0 mEq/L
   45 mg/dL
   103 mEq/L
   142 mEq/L
   22.3 %
   14.0 K/uL
        [image002.jpg]
                            [**2151-11-8**]  03:24 AM
                            [**2151-11-8**]  03:49 AM
                            [**2151-11-8**]  06:04 AM
                            [**2151-11-8**]  09:26 AM
                            [**2151-11-8**]  02:49 PM
                            [**2151-11-8**]  04:00 PM
                            [**2151-11-8**]  04:37 PM
                             [**2151-11-9**]  02:00 AM
                             [**2151-11-9**]  02:30 AM
                             [**2151-11-9**]  06:42 AM
   WBC
   15.1
   15.0
   14.0
   Hct
   21.9
   22.3
   22.3
   Plt
   [**Telephone/Fax (3) 10277**]
   Cr
   1.4
   1.5
   1.4
   TCO2
   31
   32
   31
   32
   31
   31
   33
   Glucose
   129
   145
   129
   Other labs: PT / PTT / INR:14.6/24.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  improving ARDS, fluid overload.
          -  Continue to gently diurese
          -  Continue to wean PEEP and FiO2
   PNA:  Day 12 of levoquin/vanco.  meropenem. - will discuss with ID re:
   switching back to cefepime in light of negative cultures.
   Has been afebrile overnight which is good sign.
   HTN:  on amlodipine, labetolol
   DM:
   continue diuresis
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-9**] 08:10 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-10-31**] 04:30 PM
   Arterial Line - [**2151-11-1**] 04:07 AM
   Comments: consider PIC line.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-11-10 09:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Lasix 40mg IV given, no UOP response (net positive) so gave another
   80mg IV Lasix.
   - Call ID re: cefepime, stopping [**Last Name (un) **]
   - PICC ordered
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-9**] 08:16 PM
   Levofloxacin - [**2151-11-9**] 10:30 PM
   Meropenem - [**2151-11-9**] 10:30 PM
   Infusions:
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-10**] 01:03 AM
   Furosemide (Lasix) - [**2151-11-10**] 02:00 AM
   Hydralazine - [**2151-11-10**] 04:01 AM
   Midazolam (Versed) - [**2151-11-10**] 07:52 AM
   Fentanyl - [**2151-11-10**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-10**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (98.9
   HR: 83 (72 - 102) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (20 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (10 - 16)mmHg
   Total In:
                                                                  3,126 mL
                                                                  1,171 mL
   PO:
   TF:
                                                                  1,203 mL
                                                                    438 mL
   IVF:
                                                                    753 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  2,010 mL
   Urine:
                                                                  3,085 mL
                                                                  2,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     41 mL
                                                                   -839 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 259 (0 - 405) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.50/43/82.[**Numeric Identifier 253**]/32/8
   Ve: 7.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: sedated and intubate; flittering eyelids a little
   Heart: NRRR; no murmurs
   Chest: rhonchorous b/l but improved from yesterday
   Abdomen: distended, soft, no BS
   Ext: trace edema LE, 1+ edema UE; warm and well-perfused
   Labs / Radiology
   265 K/uL
   7.2 g/dL
   81 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   41 mg/dL
   103 mEq/L
   145 mEq/L
   22.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2151-11-9**]  02:00 AM
                             [**2151-11-9**]  02:30 AM
                             [**2151-11-9**]  06:42 AM
                             [**2151-11-9**]  10:07 AM
                             [**2151-11-9**]  03:49 PM
                             [**2151-11-9**]  05:09 PM
                             [**2151-11-10**]  12:45 AM
                             [**2151-11-10**]  04:14 AM
                             [**2151-11-10**]  04:29 AM
                             [**2151-11-10**]  07:53 AM
   WBC
   14.0
   13.9
   Hct
   22.3
   22.2
   Plt
   269
   265
   Cr
   1.4
   1.3
   1.3
   TCO2
   31
   33
   33
   33
   34
   36
   35
   Glucose
   129
   104
   81
   Other labs: PT / PTT / INR:14.6/24.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Imaging: [**2151-11-9**]
   SUPINE AP VIEW OF THE CHEST:
   There is mild cardiomegaly, unchanged since the prior chest radiograph
   exam on the same day. Patient is status post PICC placement, with an
   approach from the left, and the catheter terminating at the cavoatrial
   junction. There is also a right IJ central catheter terminating within
   the mid SVC. A
   nasogastric tube terminates within the stomach. An endotracheal tube
   terminates 3.6 cm above the level of the carina. There is a stable
   opacity
   within the right lower lobe, slightly increased in density in
   comparison to
   the prior chest radiograph from [**2151-11-8**] at 3 a.m. There is no
   pneumothorax. There are small bilateral pleural effusions.
   IMPRESSION:
   1. Status post PICC placement with catheter terminating at the
   cavoatrial
   junction.
   2. Stable right lower lobe opacity is compatible with atelectasis
   Microbiology: Time Taken Not Noted     Log-In Date/Time: [**2151-11-9**] 2:02
   pm
         SPUTUM
      GRAM STAIN (Final [**2151-11-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   [**2151-11-8**] 5:06 pm URINE      Source: Catheter.
      URINE CULTURE (Final [**2151-11-9**]):
         YEAST.    >100,000 ORGANISMS/ML
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  For etiology, patient presented with
   evidence of lobar R-sided pneumonia with rapid progression to severe
   ARDS requiring maximal ventilatory support. Pt is now s/p 7 PEA
   arrests.   We were unable to find a fluid collection amenable to
   thoracentesis on ultrasound
   .
   Overnight, the pt was weaned to a PSV on 10 and 12.  She is tolerating
   this, but has RR in the 40's whenever her sedation is weaned.
   - Will give Lasix 40mg IV x1 today and f/u UOP later in the day. Goal
   UOP should be 2 L
   - Continue Levaquin (started [**10-29**]; on day 13), Vanc (started [**10-30**]; on
   day 11), and Cefepime (started [**10-31**]; on day 9) for severe pneumonia,
   plan is for a 15-day course.  Meropenem started and cefipime stopped
   because positive blood cultures despite being on antibiotics.  These
   blood cultures are now reported as negative.
   - ID recs on current abio regimen
   - resend sputum because change in character of sputum
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.   Afebrile overnight.
   - F/u Cx
s already drawn
   - ABx as above
   - ID recs holding the course for now, daily BCx
s, and consider
   changing the lines
   - Will hold off on changing lines for now, but something to keep in
   mind
   .
   #Tachycardia and HTN: The tachycardia responded several days ago to
   500cc boluses of fluids, but not so much yesterday when she got 1L
   fluids. She was on a significant home regimen of HTN meds.
   - Address both tachycardia and HTN by starting Labetalol 600mg PO tid
   through NGT, and IV Hydral for breakthrough HTN.
   - Was started on amlodipine 10mg
   - Continue to address underlying infectious and respiratory issues.
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Currently getting  free H2O flushes w/ tube feeds.  Normal
   blood Na this morning.
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Will keep on insulin drip for now since sugars were so hard to
   control before.
   - Q2hr blood sugars.
   .
   #Yeast in urine: Foley catheter replaced [**2151-11-6**].  Still yeast in
   urine
   - Start fluconazole
   .
   # Rising creatinine: today improving slightly, we will continue to
   trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, tube feeds with free water flushes
   for hypernatremia.
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has L art line, R IJ and 2 peripherals. Needs bedside eval for
   PICC and go to IR for PICC if cannot at bedside.  Then d/c IJ
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-9**] 10:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-11-10 12:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with respiratory failure/PNA/ARDS.  No pathogen isolated.
   Went back on AC overnight.
   24 Hour Events:
 SPUTUM CULTURE - At [**2151-11-9**] 10:30 AM
 MULTI LUMEN - STOP [**2151-11-9**] 03:31 PM
 PICC LINE - START [**2151-11-9**] 03:47 PM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-9**] 08:16 PM
   Levofloxacin - [**2151-11-9**] 10:30 PM
   Meropenem - [**2151-11-10**] 09:56 AM
   Infusions:
   Insulin - Regular - 3.5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-10**] 02:00 AM
   Hydralazine - [**2151-11-10**] 04:01 AM
   Midazolam (Versed) - [**2151-11-10**] 07:52 AM
   Famotidine (Pepcid) - [**2151-11-10**] 09:56 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-10**] 09:56 AM
   Fentanyl - [**2151-11-10**] 09:56 AM
   Other medications:
   levoflox
   chlorhexidine
   famotadine
   norvasc
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-10**] 12:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 98 (81 - 102) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 30 (21 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 14 (14 - 16)mmHg
   Total In:
                                                                  3,126 mL
                                                                  1,496 mL
   PO:
   TF:
                                                                  1,203 mL
                                                                    630 mL
   IVF:
                                                                    753 mL
                                                                    215 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  2,390 mL
   Urine:
                                                                  3,085 mL
                                                                  2,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     41 mL
                                                                   -894 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 345) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.50/43/82.[**Numeric Identifier 253**]/32/8
   Ve: 10.1 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, moving all for extremities.  Nodding head to voice.
   Labs / Radiology
   7.2 g/dL
   265 K/uL
   81 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.5 mEq/L
   41 mg/dL
   103 mEq/L
   145 mEq/L
   22.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2151-11-9**]  02:00 AM
                             [**2151-11-9**]  02:30 AM
                             [**2151-11-9**]  06:42 AM
                             [**2151-11-9**]  10:07 AM
                             [**2151-11-9**]  03:49 PM
                             [**2151-11-9**]  05:09 PM
                             [**2151-11-10**]  12:45 AM
                             [**2151-11-10**]  04:14 AM
                             [**2151-11-10**]  04:29 AM
                             [**2151-11-10**]  07:53 AM
   WBC
   14.0
   13.9
   Hct
   22.3
   22.2
   Plt
   269
   265
   Cr
   1.4
   1.3
   1.3
   TCO2
   31
   33
   33
   33
   34
   36
   35
   Glucose
   129
   104
   81
   Other labs: PT / PTT / INR:14.6/24.7/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  continue to wean Peep as tolerated.
   Fluid overload:  continue to diurese as tolerated, aim 1-2L negative.
   yeast in urine:  fluconazole.
   vanco/cefepime/levoflox for VAP: day 9 of [**Last Name (un) **]/cefepime of day 15.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-9**] 10:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Discussed with daughters about Mrs. [**Known lastname 10074**]
 status.  Overall she is
   significantly improved but is still critically ill.  She will require a
   tracheostomy and PEG tube.  This is due to her prolonged intubation and
   paralysis, which will require a prolonged wean off the ventilator.   A
   trach tube in particular will make this easier and also decrease risk
   of damage to trachea.  They are in agreement.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2151-11-10**] 19:14 ------

2151-11-11 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   -Fever of 101.3
   -successfully weaned PEEP to 8
   - diuresed 1.2L
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-9**] 10:30 PM
   Fluconazole - [**2151-11-10**] 05:52 PM
   Vancomycin - [**2151-11-10**] 08:37 PM
   Meropenem - [**2151-11-10**] 10:13 PM
   Infusions:
   Insulin - Regular - 4 units/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-10**] 09:56 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-10**] 03:53 PM
   Hydralazine - [**2151-11-10**] 07:36 PM
   Fentanyl - [**2151-11-11**] 12:43 AM
   Midazolam (Versed) - [**2151-11-11**] 05:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 93 (83 - 105) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 29 (24 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,345 mL
                                                                  1,205 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    320 mL
   IVF:
                                                                    780 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  4,565 mL
                                                                  1,880 mL
   Urine:
                                                                  4,365 mL
                                                                    980 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 259) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 19 cmH2O
   Plateau: 23 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.53/40/108/33/10
   Ve: 10 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Gen: intubated, opening eyes
   Heart: NRRR; no murmus
   Chest: Rhonchorous b/l but continues to improve
   Abdomen: distended; soft, hypoactive BS
   Ext: LE are hypovolemic clinically, UE are edematous
   Labs / Radiology
   313 K/uL
   7.2 g/dL
   142 mg/dL
   1.4 mg/dL
   33 mEq/L
   4.5 mEq/L
   42 mg/dL
   105 mEq/L
   147 mEq/L
   21.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2151-11-9**]  05:09 PM
                             [**2151-11-10**]  12:45 AM
                             [**2151-11-10**]  04:14 AM
                             [**2151-11-10**]  04:29 AM
                             [**2151-11-10**]  07:53 AM
                             [**2151-11-10**]  03:43 PM
                             [**2151-11-10**]  05:32 PM
                             [**2151-11-11**]  12:27 AM
                             [**2151-11-11**]  04:55 AM
                             [**2151-11-11**]  05:12 AM
   WBC
   13.9
   12.9
   Hct
   22.2
   21.1
   Plt
   265
   313
   Cr
   1.3
   1.4
   1.4
   TCO2
   33
   34
   36
   35
   35
   36
   35
   Glucose
   81
   122
   142
   Other labs: PT / PTT / INR:15.4/20.9/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR [**2151-11-10**]
   IMPRESSION:
   1. Left retrocardiac consolidation with air bronchograms concerning for
   underlying pneumonia.
   2. Interval improvement of left pulmonary edema.
   3. Stable right pleural effusion.
   KUB read pending
   Microbiology: [**2151-11-9**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY {YEAST}
   [**2151-11-8**]  URINE URINE CULTURE-FINAL {YEAST}
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R-sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 7 PEA arrests.   We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound
   Overnight, the pt was weaned to PEEP of 8, so can pursue with trach
   placement. Patient looks a little dry clinically.
   - Lasix drip at current setting
   - Acetazolamide [**Hospital1 **] for alkalemia
   - Continue Levaquin (started [**10-29**]; on day 14), Vanc (started [**10-30**]; on
   day 13), and Cefepime/Meropenem (started [**10-31**]; on day 12) for severe
   pneumonia, plan is for a 15-day course.  Meropenem started and cefipime
   stopped because positive blood cultures despite being on antibiotics.
   These blood cultures are now reported as negative.   ID ok with staying
   with meropenem.
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   - Consult IP or surgery for trach and PEG placement.
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.  IJ has been replaced,
   foley has been replaced. Patient has had blood cultures, sputum, stool,
   and urine.  Not sure what other source is possible.  Could be a drug
   fever.
   - F/u Cx
s already drawn
   - ABx as above
   - Consider stopping any unneccessary medications.
   .
   #Tachycardia and HTN: The tachycardia has been responsive to fluid
   boluses. She was on a significant home regimen of HTN meds, which were
   restarted.  Her HTN and tachyC are currently controlled.
   - Labetalol 800 TID, amlodipine 10mg, IV hydral PRN
   - Zyprexa for agitation
   - continue diuresis as this will also help control blood pressure.
   - Continue to address underlying infectious and respiratory issues.
   - 1 uPRBC b/c Hct low as well
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Currently getting  free H2O flushes w/ tube feeds.
   - Increase free water flushes
   - Free water boluses and increase lasix
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Add glargine dose, continue insulin drip  and change to ISS tomorrow
   - Q2hr blood sugars.
   .
   #Yeast in urine: Foley catheter replaced [**2151-11-6**].  Still yeast in
   urine
   - Continue fluconazole 200-400 qd for 5 days (day 2)
   .
   # Rising creatinine: today improving slightly, we will continue to
   trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, tube feeds with free water flushes
   for hypernatremia.
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has PICC, ART and 2 peripherals.
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-11 10:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with PNA/ARDS.  Continued improvment.
   24 Hour Events:
 FEVER - 101.3
F - [**2151-11-11**] 04:00 AM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Levofloxacin - [**2151-11-9**] 10:30 PM
   Fluconazole - [**2151-11-10**] 05:52 PM
   Vancomycin - [**2151-11-10**] 08:37 PM
   Meropenem - [**2151-11-11**] 10:07 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Hydralazine - [**2151-11-10**] 07:36 PM
   Fentanyl - [**2151-11-11**] 12:43 AM
   Midazolam (Versed) - [**2151-11-11**] 05:32 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-11**] 08:00 AM
   Other medications:
   chlorhexidine
   famoticidine
   meropenem
   norvasc
   labetolol
   fluconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-11**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 97 (85 - 105) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (24 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,345 mL
                                                                  1,633 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    530 mL
   IVF:
                                                                    780 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  4,565 mL
                                                                  2,560 mL
   Urine:
                                                                  4,365 mL
                                                                  1,660 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                   -927 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 261 (0 - 261) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 22 cmH2O
   Plateau: 23 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.53/40/108/33/10
   Ve: 8.4 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   313 K/uL
   142 mg/dL
   1.4 mg/dL
   33 mEq/L
   4.5 mEq/L
   42 mg/dL
   105 mEq/L
   147 mEq/L
   21.1 %
   12.9 K/uL
        [image002.jpg]
                             [**2151-11-9**]  05:09 PM
                             [**2151-11-10**]  12:45 AM
                             [**2151-11-10**]  04:14 AM
                             [**2151-11-10**]  04:29 AM
                             [**2151-11-10**]  07:53 AM
                             [**2151-11-10**]  03:43 PM
                             [**2151-11-10**]  05:32 PM
                             [**2151-11-11**]  12:27 AM
                             [**2151-11-11**]  04:55 AM
                             [**2151-11-11**]  05:12 AM
   WBC
   13.9
   12.9
   Hct
   22.2
   21.1
   Plt
   265
   313
   Cr
   1.3
   1.4
   1.4
   TCO2
   33
   34
   36
   35
   35
   36
   35
   Glucose
   81
   122
   142
   Other labs: PT / PTT / INR:15.4/20.9/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  Weaning down well.  Will see if she is able to
   extubate by monday.  If not will go with tracheostomy.
   fluid overload:  doing well on lasix drip.  acetazolamide for
   contraction alkalosis.
   anemia:  1U transfusion for anemia
   antibiotics:  complete 15 course of vanco/levo/cefepime.
   fever overnight:  pan culture.
   HTN:  On labetolol and norvasc.
   agitation:  Zyprexa
   DM on insulin drip.    Will start glargine.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2151-11-11**] 02:56 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2151-11-12 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   - d/c Levaquin tomorrow, d/c other abx after 15 day course
   - consulted IP re: trach and PEG Monday if not able to wean from vent
   - Glargine dose given and kept on insulin drip.  Will consider starting
   sliding scale tomorrow.
   - started on Zyprexa and seems to be doing well with it.
   - 1 uPRBC
   - Acetazolamide started d/t alkalosis and diuresis
   - increased free H20 flushes for hypernatremia
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Fluconazole - [**2151-11-11**] 08:00 PM
   Vancomycin - [**2151-11-11**] 09:00 PM
   Levofloxacin - [**2151-11-11**] 11:30 PM
   Meropenem - [**2151-11-12**] 12:51 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-12**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.6
C (101.5
   HR: 86 (76 - 105) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 25 (22 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,958 mL
                                                                    671 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                     48 mL
   IVF:
                                                                  1,057 mL
                                                                    312 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  4,715 mL
                                                                  1,130 mL
   Urine:
                                                                  3,815 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -757 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 273) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/43/124/31/8
   Ve: 7.9 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Gen: Intubated, sedated, but opening eyes to name
   Chest: rhonchorous b/l but much improved
   Heart: NRRR no murmurs
   Abdomen: soft, obese, hypoactive BS
   Ext: no edema, warm and well perfused.
   Labs / Radiology
   311 K/uL
   7.7 g/dL
   229 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   44 mg/dL
   102 mEq/L
   143 mEq/L
   23.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2151-11-10**]  05:32 PM
                             [**2151-11-11**]  12:27 AM
                             [**2151-11-11**]  04:55 AM
                             [**2151-11-11**]  05:12 AM
                             [**2151-11-11**]  11:18 AM
                             [**2151-11-11**]  03:00 PM
                             [**2151-11-11**]  03:08 PM
                             [**2151-11-11**]  06:24 PM
                             [**2151-11-12**]  03:24 AM
                             [**2151-11-12**]  03:43 AM
   WBC
   12.9
   11.1
   Hct
   21.1
   23.2
   Plt
   313
   311
   Cr
   1.4
   1.5
   1.4
   TCO2
   35
   36
   35
   35
   34
   34
   33
   Glucose
   142
   229
   Other labs: PT / PTT / INR:14.7/23.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR [**2151-11-11**]
   IMPRESSION: Better aeration of bilateral lower lobes with no new areas
   of
   consolidation.
   Microbiology: [**2151-11-11**] 8:10 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2151-11-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
   [**2151-11-8**] 5:06 pm URINE      Source: Catheter.
      URINE CULTURE (Final [**2151-11-9**]):
         YEAST.    >100,000 ORGANISMS/ML..
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R-sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 7 PEA arrests.   We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound  Overnight, the pt was weaned to PEEP of 5 and PS of 0.  Can
   pursue with trach placement, but would give patient extuabtion trial.
   Patient is on the schedule tentatively for Mon.  Patient looks a little
   dry clinically.
   - Lasix drip at current setting; consider decreasing amount
   - Acetazolamide [**Hospital1 **] for alkalemia
   - Continue Levaquin (started [**10-29**]; on day 15), Vanc (started [**10-30**]; on
   day 14), and Cefepime/Meropenem (started [**10-31**]; on day 13) for severe
   pneumonia, plan is for a 15-day course.  Meropenem started and cefipime
   stopped because positive blood cultures despite being on antibiotics.
   These blood cultures are now reported as negative.   ID ok with staying
   with meropenem.
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids.
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.  IJ has been replaced,
   foley has been replaced. Patient has had blood cultures, sputum, stool,
   and urine.  Not sure what other source is possible.  Could be a drug
   fever.
   - F/u Cx
s already drawn
   - ABx as above
   - see how fever improves when antibiotics are stopped over the next
   couple of days.
   - reculture for BP drop or other major clinical changes.
   - Consider stopping any unneccessary medications.
   .
   #Tachycardia and HTN: The tachycardia has been responsive to fluid
   boluses. She was on a significant home regimen of HTN meds, which were
   restarted.  Her HTN and tachyC are currently controlled.
   - Labetalol 800 TID, amlodipine 10mg, IV hydral PRN
   - Zyprexa for agitation
   - continue diuresis as this will also help control blood pressure.
   - Continue to address underlying infectious and respiratory issues.
   #Yeast in urine/vagina: Foley catheter replaced [**2151-11-6**].  Still yeast
   in urine.  Now yeast in vagina.
   - Vaginal yeast infection
   - Change foley today
   - Continue fluconazole 200-400 qd for 5 days (day 3)
   .
   #Anemia: patient Hct has been low for length of stay and interval bllod
   transfusions given.  Patient given a unit yesteday and increased Hct 2
   points.  Cause of her low Hct is now know, but there does not seem to
   be a GI bleed per NG tube suctioning and bowel movement examination.
   Loss could be due to being critically ill.
   - Give blood transfusion as needed.
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Change 50 glargine to 40BID w/ sliding scale and stop drip.
   - Q2hr blood sugars.
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Currently getting  free H2O flushes w/ tube feeds.
   - Increase free water flushes
   - Free water boluses and increase lasix
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Add glargine dose, continue insulin drip  and change to ISS tomorrow
   - Q2hr blood sugars.
   .
   # Rising creatinine: improving, we will continue to trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, tube feeds with free water flushes
   for hypernatremia.
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has PICC, ART and 2 peripherals.
   Code:  Full code, confirmed with family.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, was informed of acute decline last night. Phone numbers are
   in board in room
   Disposition: Pending clinical improvement

2151-11-12 11:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo women with PNA/ARDS/respiratory failure.  Doing.  Weaning down.
   Failed RSBI/SBT
   today.  Unable to go to PSV.
   24 Hour Events:
 SPUTUM CULTURE - At [**2151-11-11**] 08:17 AM
 FEVER - 101.8
F - [**2151-11-11**] 06:00 PM
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Fluconazole - [**2151-11-11**] 08:00 PM
   Vancomycin - [**2151-11-11**] 09:00 PM
   Levofloxacin - [**2151-11-11**] 11:30 PM
   Meropenem - [**2151-11-12**] 09:39 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-12**] 08:20 AM
   Famotidine (Pepcid) - [**2151-11-12**] 08:20 AM
   Other medications:
   levoflox
   insulin
   chlorehex
   vanco
   meropenem
   labetolol
   fluconazole
   acetazolimide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-12**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.6
C (99.6
   HR: 79 (76 - 105) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (21 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,958 mL
                                                                  1,086 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                     48 mL
   IVF:
                                                                  1,057 mL
                                                                    673 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  4,715 mL
                                                                  2,090 mL
   Urine:
                                                                  3,815 mL
                                                                  2,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -757 mL
                                                                 -1,004 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 0 (0 - 273) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.48/43/124/31/8
   Ve: 7.8 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, very weak, does
   not move limbs
   Labs / Radiology
   7.7 g/dL
   311 K/uL
   229 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   44 mg/dL
   102 mEq/L
   143 mEq/L
   23.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2151-11-10**]  05:32 PM
                             [**2151-11-11**]  12:27 AM
                             [**2151-11-11**]  04:55 AM
                             [**2151-11-11**]  05:12 AM
                             [**2151-11-11**]  11:18 AM
                             [**2151-11-11**]  03:00 PM
                             [**2151-11-11**]  03:08 PM
                             [**2151-11-11**]  06:24 PM
                             [**2151-11-12**]  03:24 AM
                             [**2151-11-12**]  03:43 AM
   WBC
   12.9
   11.1
   Hct
   21.1
   23.2
   Plt
   313
   311
   Cr
   1.4
   1.5
   1.4
   TCO2
   35
   36
   35
   35
   34
   34
   33
   Glucose
   142
   229
   Other labs: PT / PTT / INR:14.7/23.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  continue to wean as tolerated
   PNA:  close to finishing course of antibiotics.  Levoflox for 1 more
   day, meropenem for 2 more days, vanco for 2 more day.
   fevers:  had been afebrile.  But today.  Overall doing well.
   agitation:  better controlled with zyprexa
   HTN:  on labetolol and norvasc PO.
   DM:  increase to 40mg [**Hospital1 **] of glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-11-13 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/c Levaquin [**11-13**], d/c Vanc [**11-14**], d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 350**] [**11-15**]
   - monostat written for vaginal infection
   - lasix drip on board
   - on SBT this morning
   - this morning with white secretions
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Fluconazole - [**2151-11-11**] 08:00 PM
   Levofloxacin - [**2151-11-11**] 11:30 PM
   Vancomycin - [**2151-11-12**] 08:42 PM
   Meropenem - [**2151-11-12**] 10:42 PM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-12**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-12**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-13**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 76 (65 - 86) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (18 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,060 mL
                                                                    759 mL
   PO:
             TF:
                                                                    656 mL
                                                                      3 mL
   IVF:
                                                                  1,234 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  4,390 mL
                                                                  1,200 mL
   Urine:
                                                                  4,390 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                   -441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 290 (204 - 310) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.42/51/109/31/7
   Ve: 5.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: Opens eyes, tracks, alert, interactive, answers questions with
   head shake.
   CV: RRR, no m/r/g
   PULM: mild rhonchi b/l
   ABD: soft, nt, nd, +bs
   EXTR: no edema in feet, 1+ edema in hands b/l
   Labs / Radiology
   269 K/uL
   8.0 g/dL
   156 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.6 mEq/L
   46 mg/dL
   101 mEq/L
   140 mEq/L
   23.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2151-11-11**]  05:12 AM
                             [**2151-11-11**]  11:18 AM
                             [**2151-11-11**]  03:00 PM
                             [**2151-11-11**]  03:08 PM
                             [**2151-11-11**]  06:24 PM
                             [**2151-11-12**]  03:24 AM
                             [**2151-11-12**]  03:43 AM
                             [**2151-11-12**]  04:38 PM
                             [**2151-11-13**]  03:58 AM
                             [**2151-11-13**]  04:17 AM
   WBC
   11.1
   9.7
   Hct
   23.2
   23.6
   Plt
   311
   269
   Cr
   1.5
   1.4
   1.4
   TCO2
   35
   35
   34
   34
   33
   34
   34
   Glucose
   [**Telephone/Fax (3) 10345**]
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R-sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 7 PEA arrests.   We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound  Overnight, the pt was weaned to PEEP of 5 and PS of 0.  Can
   pursue with trach placement, but would give patient extuabtion trial.
   Patient is on the schedule tentatively for Mon.  Patient looks a little
   dry clinically.
   - Lasix drip at current setting of 9 mg/hour, goal negative 500
   today
   - Acetazolamide [**Hospital1 **] for alkalemia
   - Discontinue Levaquin today
   - Continue Vanc (started [**10-30**]; on day 15), and Cefepime/Meropenem
   (started [**10-31**]; on day 14) for severe pneumonia, plan is for a 15-day
   course.  Meropenem started and cefipime stopped because positive blood
   cultures despite being on antibiotics.  These blood cultures are now
   reported as negative.   ID ok with staying with meropenem.
   - d/c Levaquin [**11-13**], d/c Vanc [**11-14**], d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 350**] [**11-15**]
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids
   - At first, minimal cuff leak, then on rounds, more robust leak present
   - Consider cook catheter if planning for extubation tomorrow
   - Plan for extubation tomorrow; alert anesthesia d/t difficulty of
   intubation (for this, NPO in the early morning, at least 2 hours before
   extubation)
   - Contact family regarding potential extubation planned for tomorrow
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.  IJ has been replaced,
   foley has been replaced (foley to be replaced again, d/t yeast).
   Patient has had blood cultures, sputum, stool, and urine.  Not sure
   what other source is possible.  Could be a drug fever.
   - Re-replace Foley if it wasn
t done yesterday already
   - F/u Cx
s already drawn
   - ABx as above
   - see how fever improves when antibiotics are stopped over the next
   couple of days.
   - reculture for BP drop or other major clinical changes.
   - Consider stopping any unneccessary medications, in case drug fever is
   causative
   .
   #Tachycardia and HTN: The tachycardia has been responsive to fluid
   boluses. She was on a significant home regimen of HTN meds, which were
   restarted.  Her HTN and tachyC are currently controlled.
   - Labetalol 800 TID, amlodipine 10mg, IV hydral PRN (not needing the
   hydral prn; could consider another po prn [**Doctor Last Name **])
   - Zyprexa for agitation
   - continue diuresis as this will also help control blood pressure.
   - Continue to address underlying infectious and respiratory issues.
   #Yeast in urine/vagina: Foley catheter replaced [**2151-11-6**].  Still yeast
   in urine.  Now yeast in vagina.
   - Change foley today if wasn
t changed yesterday yet
   - Continue fluconazole 200-400 qd for 5 days (day 4)
   .
   #Anemia: patient Hct has been low for length of stay and interval blood
   transfusions given.  Patient given a unit yesteday and increased Hct 2
   points.  Cause of her low Hct is now know, but there does not seem to
   be a GI bleed per NG tube suctioning and bowel movement examination.
   Loss could be due to being critically ill.
   - Give blood transfusion as needed. None needed today.
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Change 50 glargine to 40BID w/ sliding scale and stop drip.
   - Q2hr blood sugars.
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Previously had been getting free H2O flushes w/ tube feeds.
   No longer hypernatremic.
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt. Now gtt d/c
d; on
   glargine and ISS.
   .
   # Rising creatinine: improving, we will continue to trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, tube feeds (d/c tubefeeds early
   morning as preparation for potential extubation).
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has PICC, arterial, and 2 peripherals.
   Code:  Full code, confirmed with family. Okay with trach and PEG if
   necessary.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, has been kept informed. Phone numbers are on board in room.
   Disposition: Pending clinical improvement
   ICU Care
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM

2151-11-13 15:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx of DM, HTN, presented with resp failure, ARDS, also persistent fever
   24 Hour Events:
   Lasix drip
   Tolerating PS 5/5, 50%
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Fluconazole - [**2151-11-11**] 08:00 PM
   Levofloxacin - [**2151-11-11**] 11:30 PM
   Vancomycin - [**2151-11-12**] 08:42 PM
   Meropenem - [**2151-11-13**] 11:07 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-12**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-13**] 03:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 66 (64 - 86) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (18 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,060 mL
                                                                  1,147 mL
   PO:
             TF:
                                                                    656 mL
                                                                      3 mL
   IVF:
                                                                  1,234 mL
                                                                    515 mL
   Blood products:
   Total out:
                                                                  4,390 mL
                                                                  2,430 mL
   Urine:
                                                                  4,390 mL
                                                                  2,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,330 mL
                                                                 -1,282 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 259 (257 - 310) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.40/53/92.[**Numeric Identifier 491**]/31/5
   Ve: 5.6 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   269 K/uL
   156 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.6 mEq/L
   46 mg/dL
   101 mEq/L
   140 mEq/L
   23.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2151-11-11**]  11:18 AM
                             [**2151-11-11**]  03:00 PM
                             [**2151-11-11**]  03:08 PM
                             [**2151-11-11**]  06:24 PM
                             [**2151-11-12**]  03:24 AM
                             [**2151-11-12**]  03:43 AM
                             [**2151-11-12**]  04:38 PM
                             [**2151-11-13**]  03:58 AM
                             [**2151-11-13**]  04:17 AM
                             [**2151-11-13**]  10:42 AM
   WBC
   11.1
   9.7
   Hct
   23.2
   23.6
   Plt
   311
   269
   Cr
   1.5
   1.4
   1.4
   TCO2
   35
   34
   34
   33
   34
   34
   34
   Glucose
   [**Telephone/Fax (3) 10345**]
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Lactic Acid:1.6 mmol/L, Albumin:2.9 g/dL, LDH:363
   IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Respiratory failure:  appears ready to extubate but very difficult
   intubation. Will discuss with anesthesia and likely extubate on rounds
   in AM. Otherwise, may still consider trach but would suggest trial of
   extubation first. There is a good cuff leak.
   PNA:  close to finishing course of antibiotics. Plan to stop levo
   today, vanco tomorrow, [**Last Name (un) **] Monday
   Fevers:  had been afebrile.
   Agitation:  better controlled with zyprexa
   HTN:  on labetolol and norvasc PO.
   DM:  increase to 40mg [**Hospital1 **] of glargine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill, family updated

2151-11-14 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   No acute events
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Fluconazole - [**2151-11-13**] 06:05 PM
   Vancomycin - [**2151-11-13**] 08:16 PM
   Meropenem - [**2151-11-13**] 10:12 PM
   Levofloxacin - [**2151-11-14**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-14**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-14**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 79 (64 - 82) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,164 mL
                                                                    632 mL
   PO:
             TF:
                                                                    403 mL
                                                                    320 mL
   IVF:
                                                                  1,081 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,070 mL
   Urine:
                                                                  3,410 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,246 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 320 (254 - 320) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.42/51/99.[**Numeric Identifier **]/32/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   293 K/uL
   9.0 g/dL
   151 mg/dL
   1.5 mg/dL
   32 mEq/L
   3.8 mEq/L
   53 mg/dL
   98 mEq/L
   140 mEq/L
   26.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2151-11-11**]  03:08 PM
                             [**2151-11-11**]  06:24 PM
                             [**2151-11-12**]  03:24 AM
                             [**2151-11-12**]  03:43 AM
                             [**2151-11-12**]  04:38 PM
                             [**2151-11-13**]  03:58 AM
                             [**2151-11-13**]  04:17 AM
                             [**2151-11-13**]  10:42 AM
                             [**2151-11-14**]  04:23 AM
                             [**2151-11-14**]  04:55 AM
   WBC
   11.1
   9.7
   6.9
   Hct
   23.2
   23.6
   26.8
   Plt
   [**Telephone/Fax (3) 10376**]
   Cr
   1.4
   1.4
   1.5
   TCO2
   34
   34
   33
   34
   34
   34
   34
   Glucose
   [**Telephone/Fax (3) 10377**]51
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Has now had 2 episodes of PEA and then 2
   episodes of hemodynamic instability requiring shocks. Currently, she
   has been more stable for the past several days, trying to wean down on
   the vent and control HTN, tachycardia, and fevers.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R-sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 7 PEA arrests.   We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound  Overnight, the pt was weaned to PEEP of 5 and PS of 0.  Can
   pursue with trach placement, but would give patient extuabtion trial.
   Patient is on the schedule tentatively for Mon.  Patient looks a little
   dry clinically.
   - Lasix drip at current setting of 9 mg/hour, goal negative 500
   today
   - Acetazolamide [**Hospital1 **] for alkalemia
   - Stop Vanc (started [**10-30**]; on day 15), and stop Cefepime/Meropenem
   (started [**10-31**]; on day 15) tomorrow for severe pneumonia, plan is for a
   15-day course.  Meropenem started and cefipime stopped because positive
   blood cultures despite being on antibiotics.  These blood cultures are
   now reported as negative.   ID ok with staying with meropenem.
   - d/c Levaquin [**11-13**], d/c Vanc [**11-14**], d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 350**] [**11-15**]
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids
   - At first, minimal cuff leak, then on rounds, more robust leak present
   - Consider cook catheter if planning for extubation tomorrow
   - Plan for extubation; alert anesthesia d/t difficulty of intubation
   (for this, NPO in the early morning, at least 2 hours before
   extubation)
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.  IJ has been replaced,
   foley has been replaced (foley to be replaced again, d/t yeast).
   Patient has had blood cultures, sputum, stool, and urine.  Not sure
   what other source is possible.  Could be a drug fever.
   - Re-replace Foley if it wasn
t done yesterday already
   - F/u Cx
s already drawn
   - ABx as above
   - see how fever improves when antibiotics are stopped over the next
   couple of days.
   - reculture for BP drop or other major clinical changes.
   - Consider stopping any unneccessary medications, in case drug fever is
   causative
   .
   #Tachycardia and HTN: The tachycardia has been responsive to fluid
   boluses. She was on a significant home regimen of HTN meds, which were
   restarted.  Her HTN and tachyC are currently controlled.
   - Labetalol 800 TID, amlodipine 10mg, IV hydral PRN (not needing the
   hydral prn; could consider another po prn [**Doctor Last Name **])
   - Zyprexa for agitation
   - continue diuresis as this will also help control blood pressure.
   - Continue to address underlying infectious and respiratory issues.
   .
   #Yeast in urine/vagina: Foley catheter replaced [**2151-11-6**].  Still yeast
   in urine.  Now yeast in vagina.
   - Change foley today if wasn
t changed yesterday yet
   - Continue fluconazole 200-400 qd for 5 days (day 4)
   .
   #Anemia: patient Hct has been low for length of stay and interval blood
   transfusions given.  Patient given a unit yesteday and increased Hct 2
   points.  Cause of her low Hct is now know, but there does not seem to
   be a GI bleed per NG tube suctioning and bowel movement examination.
   Loss could be due to being critically ill.
   - Give blood transfusion as needed. None needed today.
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Change 50 glargine to 40BID w/ sliding scale.
   - Q2hr blood sugars.
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Previously had been getting free H2O flushes w/ tube feeds.
   No longer hypernatremic.
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt. Now gtt d/c
d; on
   glargine and ISS.
   .
   # Rising creatinine: improving, we will continue to trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities.
   Would likely be elevated again today given PEA arrest and recent
   shocks, so we will not keep checking Trops
   - Keep on tele, watch for dysrhythmias and keep pads on chest
   .
   # History of difficult intubation.  s/p 6 attempts in ED; required
   bronchoscopic placement.
   - Will need extreme care and close monitoring when extubation
   appropriate.
   .
   FEN: No IVFs, replete electrolytes, tube feeds (d/c tubefeeds early
   morning as preparation for potential extubation).
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has PICC, arterial, and 2 peripherals.
   Code:  Full code, confirmed with family. Okay with trach and PEG if
   necessary.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, has been kept informed. Phone numbers are on board in room.
   Disposition: Pending clinical improvement

2151-11-14 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Uneventful night
   Tolerated SBT this AM
   Minimal secretions
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Fluconazole - [**2151-11-13**] 06:05 PM
   Vancomycin - [**2151-11-13**] 08:16 PM
   Levofloxacin - [**2151-11-14**] 12:00 AM
   Meropenem - [**2151-11-14**] 09:30 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-14**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-14**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 69 (64 - 85) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,164 mL
                                                                    839 mL
   PO:
             TF:
                                                                    403 mL
                                                                    320 mL
   IVF:
                                                                  1,081 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,540 mL
   Urine:
                                                                  3,410 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,246 mL
                                                                   -701 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 320 (254 - 320) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.42/51/99.[**Numeric Identifier **]/32/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   293 K/uL
   151 mg/dL
   1.5 mg/dL
   32 mEq/L
   3.8 mEq/L
   53 mg/dL
   98 mEq/L
   140 mEq/L
   26.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2151-11-11**]  03:08 PM
                             [**2151-11-11**]  06:24 PM
                             [**2151-11-12**]  03:24 AM
                             [**2151-11-12**]  03:43 AM
                             [**2151-11-12**]  04:38 PM
                             [**2151-11-13**]  03:58 AM
                             [**2151-11-13**]  04:17 AM
                             [**2151-11-13**]  10:42 AM
                             [**2151-11-14**]  04:23 AM
                             [**2151-11-14**]  04:55 AM
   WBC
   11.1
   9.7
   6.9
   Hct
   23.2
   23.6
   26.8
   Plt
   [**Telephone/Fax (3) 10376**]
   Cr
   1.4
   1.4
   1.5
   TCO2
   34
   34
   33
   34
   34
   34
   34
   Glucose
   [**Telephone/Fax (3) 10377**]51
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Acute Respiratory failure:  appears ready to extubate but given
   difficult intubation, will have anesthesia present. Has cuff leak
   PNA:  close to finishing course of antibiotics. Off levo as of
   yesterday, will d/c vanco today, [**Last Name (un) **] tomorrow
   Fevers:  had been afebrile.
   Urine/sputum growing yeast: fluconazole d5/5. Consider d/c foley once
   extubated
   Agitation:  controlled with zyprexa
   HTN:  on labetolol and norvasc PO.
   DM:  40 units [**Hospital1 **] of glargine
   CRI/vol status: will aim for even to negative 1L. Stop lasix drip and
   interm dose if needed. Will stop free fluids, Na normal.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   Communication: ICU consent signed Comments:  multiple family members
   updated
   [**Name2 (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2151-11-15 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS
   24 Hour Events:
   - patient extubated
   - passed nursing bedside swallow exam and diet progressed to clear
   liquids.  Will wait for PO meds for now.
   - diuresed with 40mg lasix w/ adequate output in pm
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-13**] 08:16 PM
   Levofloxacin - [**2151-11-14**] 12:00 AM
   Fluconazole - [**2151-11-14**] 06:21 PM
   Meropenem - [**2151-11-14**] 10:02 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-14**] 11:35 AM
   Labetalol - [**2151-11-14**] 04:16 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-15**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-15**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 92 (69 - 101) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,637 mL
                                                                    122 mL
   PO:
                                                                    360 mL
                                                                     60 mL
   TF:
                                                                    320 mL
   IVF:
                                                                    842 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    520 mL
   Urine:
                                                                  2,675 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,038 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 70%
   SpO2: 95%
   ABG: 7.46/46/91/31/7
   PaO2 / FiO2: 130
   Physical Examination
   Labs / Radiology
   298 K/uL
   9.1 g/dL
   121 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   55 mg/dL
   102 mEq/L
   144 mEq/L
   28.1 %
   7.2 K/uL
        [image002.jpg]
                             [**2151-11-12**]  03:43 AM
                             [**2151-11-12**]  04:38 PM
                             [**2151-11-13**]  03:58 AM
                             [**2151-11-13**]  04:17 AM
                             [**2151-11-13**]  10:42 AM
                             [**2151-11-14**]  04:23 AM
                             [**2151-11-14**]  04:55 AM
                             [**2151-11-14**]  03:10 PM
                             [**2151-11-15**]  04:24 AM
                             [**2151-11-15**]  04:53 AM
   WBC
   9.7
   6.9
   7.2
   Hct
   23.6
   26.8
   28.1
   Plt
   [**Telephone/Fax (3) 10382**]
   Cr
   1.4
   1.5
   1.5
   TCO2
   33
   34
   34
   34
   34
   35
   34
   Glucose
   149
   156
   151
   121
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR [**11-14**]: In comparison with the study of [**11-11**], the monitoring
   and support
   devices remain in place. Bibasilar opacifications persist with
   continued
   opacification at the right costophrenic margin, consistent with pleural
   fluid.
   Microbiology: No new culture information since [**11-11**].
   Assessment and Plan
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Had several episodes of PEA arrest
   requiring shocks. Currently, she has been more stable for the past
   several days, was weaned off the vent and been afebrile.
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R-sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 7 PEA arrests.   We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound  Yesterday we extubated patient, doing well.
   - Continue lasix boluses to keep pt in negative fluid balance
   - Stop Vanc (started [**10-30**]; on day 15), and stop Cefepime/Meropenem
   (started [**10-31**]; on day 15) tomorrow for severe pneumonia, plan is for a
   15-day course.  Meropenem started and cefipime stopped because positive
   blood cultures despite being on antibiotics.  These blood cultures are
   now reported as negative.   ID ok with staying with meropenem.
   - d/c Levaquin [**11-13**], d/c Vanc [**11-14**], d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 350**] [**11-15**]
   - Asthma management with IV solumedrol and albuterol MDIs; off of
   systemic steroids
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.  IJ has been replaced,
   foley has been replaced. Patient has had blood cultures, sputum, stool,
   and urine.  Not sure what other source is possible.  Could be a drug
   fever.  Will see if afebrile when all antibiotics are stopped.  Was
   afebrile overnight.
   - F/u Cx
s already drawn
   - ABx as above
   - see how fever improves when antibiotics are stopped over the next
   couple of days.
   - reculture for BP drop or other major clinical changes.
   - Consider stopping any unneccessary medications, in case drug fever is
   causative
   .
   #Tachycardia and HTN: The tachycardia has been responsive to fluid
   boluses. She was on a significant home regimen of HTN meds, which were
   restarted.  Her HTN and tachyC are currently controlled.
   - Labetalol 800 TID changed to 20mg IV PRN doses for goal systolic of
   130-150 while she cannot take pills.  Change back to PO and add back
   amlodipine 10mg when can take pills
   - Zyprexa for agitation
   - continue diuresis as this will also help control blood pressure.
   .
   #Yeast in urine/vagina: Foley catheter replaced [**2151-11-6**].  Still yeast
   in urine.  Now yeast in vagina.
   - Continue fluconazole 200-400 qd for 5 days (day 5); can be stopped
   tomorrow.
   .
   #Anemia: patient Hct has been low for length of stay and interval blood
   transfusions given.  Patient has been responsive to blood
   transfusions.   Cause of her low Hct is now know, but there does not
   seem to be a GI bleed per NG tube suctioning and bowel movement
   examination.  Loss could be due to being critically ill.
   - Give blood transfusion as needed. None needed today.
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.  We will continue the
   insulin gtt today while she is on tube feeds. Eventually, when her
   status becomes more stable, would want to think about transitioning her
   to SSI and fixed dose, but for now keep on gtt.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Change 50 glargine to 40BID w/ sliding scale.
   - Q2hr blood sugars.
   .
   LESS ACTIVE/STABLE ISSUES:
   # HyperNa: Previously had been getting free H2O flushes w/ tube feeds.
   No longer hypernatremic.
   .
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above .
   .
   # Rising creatinine: improving, we will continue to trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities. Has
   stabilized with her improvement.
   FEN: No IVFs, replete electrolytes, tube feeds (d/c tubefeeds early
   morning as preparation for potential extubation).
   Prophylaxis: Subcutaneous heparin; H2 blocker
   Access: Has PICC, arterial, and 2 peripherals.
   Code:  Full code, confirmed with family. Okay with trach and PEG if
   necessary.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, has been kept informed. Phone numbers are on board in room.
   Disposition: Pending clinical improvement

2151-11-15 16:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday and doing well
   24 Hour Events:
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-13**] 08:16 PM
   Levofloxacin - [**2151-11-14**] 12:00 AM
   Fluconazole - [**2151-11-14**] 06:21 PM
   Meropenem - [**2151-11-15**] 09:00 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2151-11-14**] 04:16 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-15**] 08:04 AM
   Famotidine (Pepcid) - [**2151-11-15**] 08:05 AM
   Furosemide (Lasix) - [**2151-11-15**] 11:49 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-11-15**] 04:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 79 (71 - 101) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,637 mL
                                                                    797 mL
   PO:
                                                                    360 mL
                                                                    600 mL
   TF:
                                                                    320 mL
   IVF:
                                                                    842 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                  1,390 mL
   Urine:
                                                                  2,675 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,038 mL
                                                                   -594 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.43/50/96.[**Numeric Identifier 7**]/31/7
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   298 K/uL
   121 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.2 mEq/L
   55 mg/dL
   102 mEq/L
   132
   28.1 %
   7.2 K/uL
        [image002.jpg]
                             [**2151-11-12**]  04:38 PM
                             [**2151-11-13**]  03:58 AM
                             [**2151-11-13**]  04:17 AM
                             [**2151-11-13**]  10:42 AM
                             [**2151-11-14**]  04:23 AM
                             [**2151-11-14**]  04:55 AM
                             [**2151-11-14**]  03:10 PM
                             [**2151-11-15**]  04:24 AM
                             [**2151-11-15**]  04:53 AM
                             [**2151-11-15**]  03:52 PM
   WBC
   9.7
   6.9
   7.2
   Hct
   23.6
   26.8
   28.1
   Plt
   [**Telephone/Fax (3) 10382**]
   Cr
   1.4
   1.5
   1.5
   TCO2
   34
   34
   34
   34
   35
   34
   34
   Glucose
   149
   156
   151
   121
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70 yo woman with hypoxemic respiratory failure, also s/p multiple PEA
   arrest.  Now extubated.
   Acute Respiratory failure:  Now extuabted since yesterday and doing
   well.
   PNA:  Abx course completed. Does have low grade fever
   Urine/sputum growing yeast: fluconazole completed
   Agitation:  cont zyprexa
   Remainder of isssues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2151-11-16 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: RDS
   24 Hour Events:
   - pt doing well post-extubation (day 2 off vent)
   - advanced diet to soft-mechanical; pt taking PO meds
   - diuresed w. Lasix 60mg IV am and received Lasix 60mg again in PM to
   keep up with goal 1-1.5 negative
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-13**] 08:16 PM
   Levofloxacin - [**2151-11-14**] 12:00 AM
   Fluconazole - [**2151-11-14**] 06:21 PM
   Meropenem - [**2151-11-15**] 10:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2151-11-15**] 08:05 AM
   Furosemide (Lasix) - [**2151-11-15**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-15**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-16**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 84 (69 - 95) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,548 mL
                                                                    240 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    348 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    600 mL
   Urine:
                                                                  2,030 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -483 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.40/54/95.[**Numeric Identifier 253**]//6
   PaO2 / FiO2: 240
   Physical Examination
   Gen awake and talking on neb (97% O2sat)
   irregularly irreg
   Few wheezes b/l and few crackles at bases
   +BS obese s/nt/nd
   1+ edema @ ankles
   Labs / Radiology
   298 K/uL
   9.1 g/dL
   121 mg/dL
   1.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   58 mg/dL
   102 mEq/L
   150
   28.1 %
   7.2 K/uL
        [image002.jpg]
                             [**2151-11-13**]  04:17 AM
                             [**2151-11-13**]  10:42 AM
                             [**2151-11-14**]  04:23 AM
                             [**2151-11-14**]  04:55 AM
                             [**2151-11-14**]  03:10 PM
                             [**2151-11-15**]  04:24 AM
                             [**2151-11-15**]  04:53 AM
                             [**2151-11-15**]  03:45 PM
                             [**2151-11-15**]  03:52 PM
                             [**2151-11-16**]  06:00 AM
   WBC
   6.9
   7.2
   Hct
   26.8
   28.1
   Plt
   293
   298
   Cr
   1.5
   1.5
   1.6
   TCO2
   34
   34
   34
   35
   34
   34
   35
   Glucose
   156
   151
   121
   Other labs: PT / PTT / INR:14.5/24.8/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Radiology:
   In comparison with the study of [**11-11**], the monitoring and support
   devices remain in place. Bibasilar opacifications persist with
   continued opacification at the right costophrenic margin, consistent
   with pleural fluid.
   Micro
   [**11-11**] sputum yeast mod growth
[**11-11**] urine URINE CULTURE (Final [**2151-11-12**]):
      YEAST.    >100,000 ORGANISMS/ML..
   [**11-11**] B cxrs pending
   Assessment and Plan
   70F with DM, HTN, asthma; presenting to ED with RUQ pain with
   development of hypoxic respiratory failure and ARDS, possible R
   pneumonia, had increasing vent requirements, and evolving metabolic
   lactic and respiratory acidosis and shock picture, with evidence of
   liver and renal organ damage.  Had several episodes of PEA arrest
   requiring shocks. Currently, she has been more stable for the past
   several days, was weaned off the vent and been afebrile x 3 days (Tm
   101.5 [**2151-11-11**]).
   .
   ACTIVE ISSUES:
    # Respiratory failure/ARDS.  Patient presented with evidence of lobar
   R-sided pneumonia with rapid progression to severe ARDS requiring
   maximal ventilatory support. Pt is now s/p 7 PEA arrests.   We were
   unable to find a fluid collection amenable to thoracentesis on
   ultrasound.  Yesterday we extubated patient, doing well.
   - Continue lasix boluses to keep pt in negative fluid balance
   - Stop Vanc (started [**10-30**]; on day 15), and stop Cefepime/Meropenem
   (started [**10-31**]; on day 15) today for severe pneumonia, as will have
   completed 15-day course.  Meropenem started and cefipime stopped
   because positive blood cultures despite being on antibiotics.  These
   blood cultures are now reported as negative.   ID ok with staying with
   meropenem.
   - d/c Levaquin [**11-13**], d/c Vanc [**11-14**], d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 350**] [**11-15**]
   - Asthma management with albuterol MDIs; off of systemic steroids.
   .
   # Persistent fevers: Unknown source, possibly R sided PNA from
   admission. Not enough fluid on thoraco to tap. Nothing seen on
   abd/pelvis CT done on [**11-4**] to suggest a source.  IJ has been replaced,
   foley has been replaced. Patient has had blood cultures, sputum, stool,
   and urine.  Not sure what other source is possible.  Could be a drug
   fever.  Will see if afebrile when all antibiotics are stopped.
   Afebrile x 3 days
   - F/u Cx
s already drawn
   - ABx as above
   - see how fever improves when antibiotics are stopped over the next
   couple of days.
   - reculture for BP drop or other major clinical changes.
   - Consider stopping any unnecessary medications, in case drug fever is
   causative
   .
   #Tachycardia and HTN: The tachycardia has been responsive to fluid
   boluses. She was on a significant home regimen of HTN meds, which were
   restarted.  Her HTN and tachyC are currently controlled.
   - Now taking Labetalol 800 TID and  amlodipine 10mg, as pt is
   tolerating POs.
   - Zyprexa for agitation
   - continue diuresis as this will also help control blood pressure.
   .
   #Yeast in urine/vagina: Foley catheter replaced [**2151-11-6**].  Still yeast
   in urine.  Now yeast in vagina.
   - last dose of fluconazole 200 IV qd today (day [**4-13**]); can be
   discontinued tomorrow.
   .
   #Anemia: patient Hct has been low for length of stay and interval blood
   transfusions given.  Patient has been responsive to blood
   transfusions.   Cause of her low Hct is now known, but there does not
   seem to be a GI bleed per NG tube suctioning and bowel movement
   examination.  Loss could be due to being critically ill.
   - Give blood transfusion as needed. None needed today.
   .
   # Hyperglycemia. Patient takes 180 units of insulin daily at home, and
   has been difficult to control when on D5W.
   - Will allow blood sugars in the high 100's to low 200's for now
   - Change 50 glargine to 40BID w/ sliding scale
 with CBGs in mid-150s.
   - Q2hr blood sugars.
   .
   # HyperNa: Previously had been getting free H2O flushes w/ tube feeds.
   Na trending up today. Will give IV fluid bolus today.
   .
   LESS ACTIVE/STABLE ISSUES:
   # Repeated PEA arrests/shock: Patient decompensates precipitously in
   setting of hypoxia, presumably due to vagal vasodilation.  Responds
   well to epinephrine.  She does have evidence of end-organ damage on
   labs, with rising Cr and transaminitis.  Will continue to check labs as
   she stabilizes to trend for improvement.
   - Have spoken to family and she is full code
   - Optimize respiratory status as above .
   .
   # Rising creatinine: improving, we will continue to trend.
   .
   # Elevated Troponins
 Almost definitely due to global ischemia rather
   than ACS, as there is widespread evidence of hypoperfusion of multiple
   organs.  Her echo did not show any focal wall-motion abnormalities. Has
   stabilized with her improvement.
   .
   FEN: No IVFs, replete electrolytes, tube feeds, advanced diet to soft
   mechanical diet.
   Prophylaxis: Subcutaneous heparin; H2 blocker. PT consult.
   Access: Has PICC, arterial lines.
   Code:  Full code, confirmed with family. Okay with trach and PEG if
   necessary.
   Communication: Daughter [**Name (NI) 10086**] speaks English and understands the
   situation, has been kept informed. Phone numbers are on board in room.
   Disposition: d/w case management d
c to rehab, fill out call out form.

2151-11-16 09:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, s/p PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No events
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   A.C.E Inhibitors
   Cough;
   Gemfibrozil
   myalgias
   eleva
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-13**] 08:16 PM
   Levofloxacin - [**2151-11-14**] 12:00 AM
   Fluconazole - [**2151-11-14**] 06:21 PM
   Meropenem - [**2151-11-15**] 10:45 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-15**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-15**] 10:45 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-11-16**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.3
   HR: 94 (69 - 94) bpm
   BP: 148/86(100) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,548 mL
                                                                    480 mL
   PO:
                                                                  1,200 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    348 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                  1,120 mL
   Urine:
                                                                  2,030 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -483 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.40/54/95.[**Numeric Identifier 253**]/30/6
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   280 K/uL
   64 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   58 mg/dL
   108 mEq/L
   150 mEq/L
   30.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2151-11-13**]  10:42 AM
                             [**2151-11-14**]  04:23 AM
                             [**2151-11-14**]  04:55 AM
                             [**2151-11-14**]  03:10 PM
                             [**2151-11-15**]  04:24 AM
                             [**2151-11-15**]  04:53 AM
                             [**2151-11-15**]  03:45 PM
                             [**2151-11-15**]  03:52 PM
                             [**2151-11-16**]  05:31 AM
                             [**2151-11-16**]  06:00 AM
   WBC
   6.9
   7.2
   5.9
   Hct
   26.8
   28.1
   30.3
   Plt
   293
   298
   280
   Cr
   1.5
   1.5
   1.6
   1.6
   TCO2
   34
   34
   35
   34
   34
   35
   Glucose
   151
   121
   64
   Other labs: PT / PTT / INR:15.2/24.3/1.3, CK / CKMB /
   Troponin-T:838/3/0.30, ALT / AST:59/57, Alk Phos / T Bili:74/0.7,
   Amylase / Lipase:/52, Differential-Neuts:90.6 %, Band:17.0 %, Lymph:5.5
   %, Mono:3.5 %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL,
   LDH:363 IU/L, Ca++:9.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE I
 HYPOCALCEMIA (LOW CALCIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
   70 yo woman with hypoxemic respiratory failure, also s/p multiple PEA
   arrest.  Now extubated and doing well.
   Acute Respiratory failure:  Now extuabted since [**11-14**] and doing well.
   PNA:  Abx course completed.
   Urine/sputum growing yeast: fluconazole completed
   Agitation:  cont zyprexa
   Remainder of isssues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-1**] 04:07 AM
   PICC Line - [**2151-11-9**] 03:47 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: